2181-10-25 08:43:00 Physician Attending Progress Note
Chief Complaint: Hemetemesis
   HPI:
   57F w/ h/o alcoholic cirrhosis, NSAID, and cirrhosis.
   OSH: EGD clot overlying bleeding vessel.  Put out 4L from NGT.  Initial
   HCT 25, total 12U PRBC, 2FFP, 1 cryo, 1 plt.
   LLL PNA: rec'd amikacin, vanco, cefepime
   24 Hour Events:
 INVASIVE VENTILATION - START [**2181-10-25**] 04:00 AM
 CORDIS/INTRODUCER - START [**2181-10-25**] 04:50 AM
 MULTI LUMEN - START [**2181-10-25**] 04:50 AM
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:  No changes from admission
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-25**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 114 (102 - 114) bpm
   BP: 138/75(92) {138/69(89) - 167/98(115)} mmHg
   RR: 16 (15 - 31) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
           1,165 mL
   PO:
           TF:
   IVF:
   134 mL
   Blood products:
   1,031 mL
   Total out:
                                                                      0 mL
                                                                    315 mL
   Urine:
   315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    850 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 13
   PEEP: 8 cmH2O
   FiO2: 70%
   PIP: 23 cmH2O
   SpO2: 96%
   ABG: 7.24/38/91.[**Numeric Identifier **]/17/-10
   Ve: 12.9 L/min
   PaO2 / FiO2: 131
   Physical Examination
   General: Intubated, sedated. Currently not responsive.
   HEENT: PERRL.  ETT in place.
   CV: JVP 7 cm.  Regular S1,S2. No mr/r/g.
   Lungs: b/l coarse anterior rhonchi.
   Abd: +bs. Distended.  Tympanic to percussion.  +fluid wave.
   Trace LE edema.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   16.4 g/dL
   57 K/uL
   175 mg/dL
   0.7 mg/dL
   17 mEq/L
   3.6 mEq/L
   21 mg/dL
   117 mEq/L
   143 mEq/L
   47.6 %
   16.9 K/uL
        [image002.jpg]
                            [**2181-10-25**]  04:20 AM
                            [**2181-10-25**]  05:40 AM
   WBC
   16.9
   Hct
   47.6
   Plt
   57
   Cr
   0.7
   TCO2
   17
   Glucose
   175
   Other labs: PT / PTT / INR:14.5/29.4/1.3, ALT / AST:24/66, Alk Phos / T
   Bili:127/1.9, Amylase / Lipase:59/37, Differential-Neuts:87.3 %,
   Lymph:6.6 %, Mono:5.1 %, Eos:0.2 %, Lactic Acid:1.7 mmol/L, Albumin:2.8
   g/dL, LDH:268 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   ECG: 110 sinus tachycardia.
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ICU Care
   1. UGIB
 diff dx includes varices, PUD,
     - q4h hct, transfusion threshold
     - check fibrinogen level
     - cont protonix gtt, octreotide
     - surgery following
   2. Respiratory failure - intubated for vocal cord spasm but now w/ low
   P/F ratio. ? shunt given high oxygen requirement and lack of
   correction.   Given h/o cirrhosis, may well have hepatopulmonary
   syndrome contributing.   Collapse at bases due to abd distention likely
   underappreciated on CXR.   Also component of V/Q given worsening
   interstitial edema
 pulmonary edema vs TRALI vs aspiration.
   Definitely has collapsed LLL w/ air bronchograms on base of abd CT.
   -wean FIO2 as tolerated, continue PEEP 8.
   -TTE to r/o intracardiac shunt.
   - ARDS net vent (given b/l opacities).
   -may need to inc sedation given
   4. Abd distention- bladder pressure 26.  Likely due to massive
   resuscitation and third spacing.  Doubt ischemic bowel given
   hemodynamic recovery.  Albumin 2.8
   -paracentesis.
   -f/u bladder pressure.
   3. LLL consolidation
   -vanc/ctx likely CAP
   4. Alcohol w/d- versed
   5. Non gap acidosis -  renal fxn intact.   If needs fluids will plan
   for D5 w/ bicarb.
   6. Leukocytosis- UA/blood/sputum.  Likely pulmonary as above.
   Nutrition:
   Glycemic Control:
   Lines:  L IJ cordis, RIJ CVL both OSH
   Cordis/Introducer - [**2181-10-25**] 04:50 AM
   Multi Lumen - [**2181-10-25**] 04:50 AM
   20 Gauge - [**2181-10-25**] 04:50 AM
   18 Gauge - [**2181-10-25**] 08:04 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  PPI
   VAP: Bundle
   Comments:
   Communication:  Comments: mult IC
   Code status: Full
   Disposition : ICU
   Total time spent: 45 minutes

2181-10-26 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Continued to have high tidal volumes, modestly controlled by increasing
   sedation
   Continues to have small bloody output from OG tube
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2181-10-25**] 09:46 AM
   Vancomycin - [**2181-10-25**] 08:20 PM
   Infusions:
   Midazolam (Versed) - 12 mg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2181-10-25**] 04:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-26**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 100 (95 - 122) bpm
   BP: 110/48(63) {90/43(56) - 162/86(105)} mmHg
   RR: 25 (13 - 29) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 16 (10 - 22)mmHg
   Bladder pressure: 21 (15 - 26) mmHg
   Total In:
                                                                  2,813 mL
                                                                    336 mL
   PO:
   TF:
   IVF:
                                                                  1,782 mL
                                                                    336 mL
   Blood products:
                                                                  1,031 mL
   Total out:
                                                                  2,115 mL
                                                                    295 mL
   Urine:
                                                                  2,040 mL
                                                                    265 mL
   NG:
                                                                     75 mL
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                    698 mL
                                                                     41 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 2
   PEEP: 12 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 37 cmH2O
   Plateau: 23 cmH2O
   SpO2: 98%
   ABG: 7.34/37/77.[**Numeric Identifier **]/21/-5
   Ve: 12 L/min
   PaO2 / FiO2: 111
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   )
   Abdominal: Soft, Distended, ASCITES
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Labs / Radiology
   80 K/uL
   14.0 g/dL
   121 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.6 mEq/L
   22 mg/dL
   117 mEq/L
   146 mEq/L
   39.6 %
   16.1 K/uL
        [image002.jpg]
                            [**2181-10-25**]  05:40 AM
                            [**2181-10-25**]  08:48 AM
                            [**2181-10-25**]  12:49 PM
                            [**2181-10-25**]  03:00 PM
                            [**2181-10-25**]  04:28 PM
                            [**2181-10-25**]  06:29 PM
                            [**2181-10-25**]  08:19 PM
                            [**2181-10-26**]  01:00 AM
                            [**2181-10-26**]  02:11 AM
                            [**2181-10-26**]  04:39 AM
   WBC
   17.1
   16.1
   Hct
   43.2
   42.5
   41.3
   40.5
   39.7
   39.6
   Plt
   82
   80
   Cr
   0.8
   TCO2
   17
   19
   21
   21
   Glucose
   121
   Other labs: PT / PTT / INR:13.5/29.0/1.2, ALT / AST:24/66, Alk Phos / T
   Bili:127/1.9, Amylase / Lipase:59/37, Differential-Neuts:87.3 %,
   Lymph:6.6 %, Mono:5.1 %, Eos:0.2 %, Fibrinogen:351 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.8 g/dL, LDH:268 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   57 yo F with polysubstance abuse, active alcoholism, alcoholic
   cirrhosis, chronic NSAID use transferred from OSH with upper GI bleed.
   .
   #  Upper GI bleed: Likely from bleeding gastric varices, now stable.
   Hct has leveled off and small output from OG tube.  Other possibilites
   included ulcer, gastritis, MW tear.  EGD showing extensive portal
   gastropathy.
   - PPI drip
   - octreotide drip
   - TID Hct, with goal to keep Hct > 31
   - monitor for coagulopathy
   - >= 2 peripheral IVs at all times.
   - ABX ppx in setting of GIB (cipro vs CTX)
   - if decompensates, would refer to IR for TIPS per GI recs
   - transplant surgery team and GI following; per GI consider involving
   hepatology.
   .
   # Resp status: Intubated for vocal chord spasm in setting of EGD at
   OSH. A-a gradient surprisingly large for this indication. LLL
   consolidation could be contributing. Initially quite acidotic in
   setting of ETOH~200 and volume repletion.
   - serial ABGs, vent adjustments
   .
   # LLL consolidation: Noted on OSH CTA. Air bronchograms present. Likely
   a product of aspiration in the setting of hematemesis.
   - Given leukocytosis will tx with vanco, CTX for 7 day course from
   [**10-25**]
   .
   # ETOH withdrawal: Hx of signicant ETOH abuse, level of 200 on
   adamission to OSH.
   - for now on versed for withdrawal but will transition to CIWA upon
   extubation
   .
   # ETOH abuse: thimaine, folate, SW
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, boots bowel regimen
   # ACCESS: PIV;  plan to remove cordis and resite CVL; unable to place
   A-line
   # CODE: full
   # CONTACT: Discussed with son [**Name (NI) 1470**] yesterday, not HCP but will serve as
   point person.
   # DISPO: ICU
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, boots bowel regimen
   # ACCESS: PIV;  plan to remove cordis and resite CVL
   # CODE: full
   # CONTACT: Discussed with son [**Name (NI) 1470**] yesterday, not HCP but will serve as
   point person.
   # DISPO: ICU

2181-10-26 07:58:00 Physician Attending Progress Note
Chief Complaint:
   Respiratory failure
   HPI:
   57F w/ h/o alcoholic cirrhosis, NSAID, and cirrhosis.
   OSH: EGD clot overlying bleeding vessel.  Put out 4L BRB  from NGT at
   OSH.  Initial HCT 25, total 12U PRBC, 2FFP, 1 cryo, 1 plt.
   24 Hour Events:
 SPUTUM CULTURE - At [**2181-10-25**] 09:11 AM
 URINE CULTURE - At [**2181-10-25**] 09:11 AM
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2181-10-25**] 09:46 AM
   Vancomycin - [**2181-10-25**] 08:20 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2181-10-25**] 04:13 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-26**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 101 (95 - 122) bpm
   BP: 110/51(65) {90/43(56) - 162/86(105)} mmHg
   RR: 28 (13 - 29) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 10 (10 - 22)mmHg
   Bladder pressure: 21 (15 - 26) mmHg
   Total In:
                                                                  2,813 mL
                                                                    349 mL
   PO:
   TF:
   IVF:
                                                                  1,782 mL
                                                                    349 mL
   Blood products:
                                                                  1,031 mL
   Total out:
                                                                  2,115 mL
                                                                    295 mL
   Urine:
                                                                  2,040 mL
                                                                    265 mL
   NG:
                                                                     75 mL
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                    698 mL
                                                                     54 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 2
   PEEP: 12 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 37 cmH2O
   Plateau: 23 cmH2O
   SpO2: 98%
   ABG: 7.34/37/77.[**Numeric Identifier **]/21/-5
   Ve: 12 L/min
   PaO2 / FiO2: 111
   Physical Examination
   General: Intubated, sedated. Currently not responsive.
   HEENT: PERRL.  ETT in place.
   CV: JVP 7 cm.  Regular S1,S2. No mr/r/g.
   Lungs: b/l coarse anterior rhonchi.
   Abd: +bs. Distended.  Tympanic to percussion.  +fluid wave.
   Trace LE edema.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   14.0 g/dL
   80 K/uL
   121 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.6 mEq/L
   22 mg/dL
   117 mEq/L
   146 mEq/L
   39.6 %
   16.1 K/uL
        [image002.jpg]
                            [**2181-10-25**]  05:40 AM
                            [**2181-10-25**]  08:48 AM
                            [**2181-10-25**]  12:49 PM
                            [**2181-10-25**]  03:00 PM
                            [**2181-10-25**]  04:28 PM
                            [**2181-10-25**]  06:29 PM
                            [**2181-10-25**]  08:19 PM
                            [**2181-10-26**]  01:00 AM
                            [**2181-10-26**]  02:11 AM
                            [**2181-10-26**]  04:39 AM
   WBC
   17.1
   16.1
   Hct
   43.2
   42.5
   41.3
   40.5
   39.7
   39.6
   Plt
   82
   80
   Cr
   0.8
   TCO2
   17
   19
   21
   21
   Glucose
   121
   Other labs: PT / PTT / INR:13.5/29.0/1.2, ALT / AST:24/66, Alk Phos / T
   Bili:127/1.9, Amylase / Lipase:59/37, Differential-Neuts:87.3 %,
   Lymph:6.6 %, Mono:5.1 %, Eos:0.2 %, Fibrinogen:351 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.8 g/dL, LDH:268 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   Impression: 57F w/ h/o alcoholic cirrhosis, NSAID, and cirrhosis a/w
   hematemesis.
   1. UGIB
 diff dx includes varices, PUD.  Appreciate liver input.
   Likely will need repeat EGD prior to probable TIPS.
     - q6h hct, transfusion threshold 31
     - check fibrinogen level
     - cont protonix gtt,
     - octreotide x5
     - surgery following
   2. Respiratory failure - intubated for vocal cord spasm but now w/ low
   P/F ratio. ? shunt given high oxygen requirement and lack of
   correction.   Given h/o cirrhosis, may well have hepatopulmonary
   syndrome contributing.   CXR concerning for progression particularly at
   R base.  Collapse at bases due to abd distention likely
   underappreciated on CXR.   Also component of V/Q given worsening
   interstitial edema
 pulmonary edema vs TRALI vs aspiration vs.
   Definitely has collapsed LLL w/ air bronchograms on base of abd CT from
   [**9-23**].
   -wean FIO2 as tolerated, continue PEEP 8.
   -TTE to r/o intracardiac shunt.
   - repeat CXR
   - ARDS net vent (given b/l opacities).
   - will try propofol addition to attempt to maintain low Vt.
   - change abx to vanc/cefepime x 8days.
   4. Abd distention- bladder pressure 15.  Likely due to massive
   resuscitation and third spacing.  Doubt ischemic bowel given
   hemodynamic stability.  Albumin 2.8  No ascites amenable to
   paracentesis when evaluated w/ u/s yesterday.  Dramatically improved
   today.
   3. Alcohol w/d- versed
   5. Non gap acidosis -  renal fxn intact.   If needs fluids will plan
   for D5 w/ bicarb.
   6. Leukocytosis- UA/blood/sputum.  Likely pulmonary as above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:  L IJ cordis, RIJ CVL both OSH.  Pull cordis, resite RIJ.
   Cordis/Introducer - [**2181-10-25**] 04:50 AM
   Multi Lumen - [**2181-10-25**] 04:50 AM
   20 Gauge - [**2181-10-25**] 04:50 AM
   18 Gauge - [**2181-10-25**] 08:04 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  PPI
   VAP: Bundle
   Comments:
   Communication:
   Code status: Full
   Disposition : ICU
   Total time spent: 45 minutes
   ------ Protected Section ------
   CRITICAL CARE ATTENDING ADDENDUM
   I saw and examined Ms. [**Known lastname **] with Dr. [**Last Name (STitle) **], whose note above
   reflects my input.  I would add/emphasize that this 57-year-old woman
   with cirrhosis presents with GI bleeding (total ~12u PRBCs) and severe
   hypoxemic respiratory failure likely due to basilar opacities.  GI
   bleed appears to have stabilized somewhat, and we are following
   expectantly at present while continuing octreotide, PPI, etc.  On
   low-Vt ventilation with adequate plateau pressures.  Differential of
   respiratory failure is relatively [**Name2 (NI) 9548**], but CXR + GNR growing in
   sputum makes pneumonia most likely.  Will add additional GNR coverage
   while awaiting speciation/sensitivies.  Agree that TTE is reasonable to
   assess for intracardiac shunt.  Will resite lines, since they are from
   OSH.  Other issues as per Dr. [**Last Name (STitle) **]
s note.  Critically ill: 30 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 906**], MD
   on:[**2181-10-26**] 20:49 ------
   This note was not electronically signed by [**First Name8 (NamePattern2) **] [**Doctor Last Name 1065**]: this is a
   holdover from a prior note.  The note was signed by myself (CMK) and
   Dr. [**Last Name (STitle) 906**].
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2181-10-27**] 08:16 ------

2181-10-27 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2181-10-26**] 03:23 PM
 CORDIS/INTRODUCER - STOP [**2181-10-26**] 09:59 PM
 ARTERIAL LINE - START [**2181-10-26**] 10:00 PM
 MULTI LUMEN - START [**2181-10-27**] 01:16 AM
 MULTI LUMEN - STOP [**2181-10-27**] 01:38 AM
   Liver recs: possible scope on mon to determine sig of gastric varicies
   and needs for TIPS
   Brodened antibiotics to Vanc/Zosyn/cipro given persistant respiratory
   faliure/concern for pneumonia; Sputum with GNR.
   Left sub-clavian quad-lumen and A-line placed; OSH lines removed
   Started propofol to allow for low tidal volume ventillation.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2181-10-26**] 09:57 AM
   Vancomycin - [**2181-10-26**] 08:00 PM
   Ciprofloxacin - [**2181-10-27**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2181-10-27**] 12:00 AM
   Infusions:
   Propofol - 7 mcg/Kg/min
   Midazolam (Versed) - 10 mg/hour
   Octreotide - 50 mcg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2181-10-26**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-27**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37
C (98.6
   HR: 86 (86 - 107) bpm
   BP: 87/49(64) {87/49(64) - 106/61(78)} mmHg
   RR: 28 (24 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 10 (6 - 20)mmHg
   Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                  2,134 mL
                                                                    649 mL
   PO:
   TF:
   IVF:
                                                                  2,134 mL
                                                                    649 mL
   Blood products:
   Total out:
                                                                  1,605 mL
                                                                    263 mL
   Urine:
                                                                  1,575 mL
                                                                    213 mL
   NG:
                                                                     30 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                    529 mL
                                                                    386 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 34 cmH2O
   Plateau: 24 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 99%
   ABG: 7.29/44/96.[**Numeric Identifier 274**]/20/-4
   Ve: 10.8 L/min
   PaO2 / FiO2: 162
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   74 K/uL
   13.4 g/dL
   121 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.3 mEq/L
   25 mg/dL
   115 mEq/L
   143 mEq/L
   40.0 %
   13.0 K/uL
        [image002.jpg]
                            [**2181-10-26**]  01:00 AM
                            [**2181-10-26**]  02:11 AM
                            [**2181-10-26**]  04:39 AM
                            [**2181-10-26**]  10:08 AM
                            [**2181-10-26**]  05:25 PM
                            [**2181-10-26**]  08:43 PM
                            [**2181-10-26**]  10:58 PM
                            [**2181-10-27**]  01:42 AM
                            [**2181-10-27**]  03:31 AM
                            [**2181-10-27**]  03:45 AM
   WBC
   16.1
   13.0
   Hct
   39.7
   39.6
   38.9
   39.9
   38.4
   40.0
   Plt
   80
   74
   Cr
   0.8
   1.0
   TCO2
   21
   22
   21
   22
   Glucose
   121
   121
   Other labs: PT / PTT / INR:13.8/29.8/1.2, ALT / AST:24/66, Alk Phos / T
   Bili:127/1.9, Amylase / Lipase:59/37, Differential-Neuts:87.3 %,
   Lymph:6.6 %, Mono:5.1 %, Eos:0.2 %, Fibrinogen:431 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.8 g/dL, LDH:268 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.0 mg/dL
   A/P
   57 yo F with polysubstance abuse, active alcoholism, alcoholic
   cirrhosis, chronic NSAID use transferred from OSH with upper GI bleed.
   .
   #  Upper GI bleed: Likely from bleeding gastric varices, now stable.
   Hct has leveled off and small output from OG tube.  Other possibilites
   included ulcer, gastritis, MW tear.  EGD showing extensive portal
   gastropathy.
   - PPI drip
   - octreotide drip for 5 days from [**10-25**]
   - TID Hct, with goal to keep Hct > 31
   - monitor for coagulopathy
   - >= 2 peripheral IVs at all times.
   - ABX ppx in setting of GIB (cipro vs CTX)
   - if decompensates, would refer to IR for TIPS per GI recs
   - transplant surgery team and GI following; per GI consider involving
   hepatology.
   - follow fibrinogen, calcium, platelets
   .
   # Resp status: Intubated for vocal chord spasm in setting of EGD at
   OSH. A-a gradient surprisingly large for this indication. LLL
   consolidation could be contributing. Initially quite acidotic in
   setting of ETOH~200 and volume repletion.
   - serial ABGs, vent adjustments
   .
   # LLL consolidation: Noted on OSH CTA. Air bronchograms present. Likely
   a product of aspiration in the setting of hematemesis.
   - Given leukocytosis will tx with vanco, CTX for 7 day course from
   [**10-25**]
   .
   # ETOH withdrawal: Hx of signicant ETOH abuse, level of 200 on
   adamission to OSH.
   - for now on versed for withdrawal but will transition to CIWA upon
   extubation
   .
   # ETOH abuse: thimaine, folate, SW
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, boots bowel regimen
   # ACCESS: PIV;  plan to remove cordis and resite CVL; unable to place
   A-line
   # CODE: full
   # CONTACT: Discussed with son [**Name (NI) 1470**] yesterday, not HCP but will serve as
   point person.
   # DISPO: ICU

2181-10-27 08:09:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, GIB
   HPI:
   57F w/ h/o alcoholic cirrhosis, NSAID, and cirrhosis.
   OSH: EGD clot overlying bleeding vessel.  Put out 4L BRB  from NGT at
   OSH.  Initial HCT 25, total 12U PRBC, 2FFP, 1 cryo, 1 plt.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2181-10-26**] 03:23 PM
 CORDIS/INTRODUCER - STOP [**2181-10-26**] 09:59 PM
 ARTERIAL LINE - START [**2181-10-26**] 10:00 PM
 MULTI LUMEN - START [**2181-10-27**] 01:16 AM
 MULTI LUMEN - STOP [**2181-10-27**] 01:38 AM
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2181-10-26**] 09:57 AM
   Vancomycin - [**2181-10-26**] 08:00 PM
   Ciprofloxacin - [**2181-10-27**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2181-10-27**] 12:00 AM
   Infusions:
   Propofol - 7 mcg/Kg/min
   Midazolam (Versed) - 10 mg/hour
   Octreotide - 50 mcg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2181-10-26**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-27**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37
C (98.6
   HR: 86 (86 - 107) bpm
   BP: 87/49(64) {87/49(64) - 106/61(78)} mmHg
   RR: 28 (24 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 10 (7 - 20)mmHg
   Total In:
                                                                  2,134 mL
                                                                    678 mL
   PO:
   TF:
   IVF:
                                                                  2,134 mL
                                                                    678 mL
   Blood products:
   Total out:
                                                                  1,605 mL
                                                                    263 mL
   Urine:
                                                                  1,575 mL
                                                                    213 mL
   NG:
                                                                     30 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                    529 mL
                                                                    415 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 34 cmH2O
   Plateau: 24 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 99%
   ABG: 7.29/44/96.[**Numeric Identifier 274**]/20/-4
   Ve: 10.8 L/min
   PaO2 / FiO2: 162
   Physical Examination
   General: Intubated, sedated. Currently not responsive.
   HEENT: PERRL.  ETT in place
   Left SC CVL.
   CV: JVP 7 cm.  Regular S1,S2. No mr/r/g.
   Lungs: b/l coarse anterior rhonchi.
   Abd: +bs. Distended.  Tympanic to percussion.  +fluid wave.
   Trace LE edema.
   Peripheral Vascular:
   Labs / Radiology
   13.4 g/dL
   74 K/uL
   121 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.3 mEq/L
   25 mg/dL
   115 mEq/L
   143 mEq/L
   40.0 %
   13.0 K/uL
        [image002.jpg]
                            [**2181-10-26**]  01:00 AM
                            [**2181-10-26**]  02:11 AM
                            [**2181-10-26**]  04:39 AM
                            [**2181-10-26**]  10:08 AM
                            [**2181-10-26**]  05:25 PM
                            [**2181-10-26**]  08:43 PM
                            [**2181-10-26**]  10:58 PM
                            [**2181-10-27**]  01:42 AM
                            [**2181-10-27**]  03:31 AM
                            [**2181-10-27**]  03:45 AM
   WBC
   16.1
   13.0
   Hct
   39.7
   39.6
   38.9
   39.9
   38.4
   40.0
   Plt
   80
   74
   Cr
   0.8
   1.0
   TCO2
   21
   22
   21
   22
   Glucose
   121
   121
   Other labs: PT / PTT / INR:13.8/29.8/1.2, ALT / AST:24/66, Alk Phos / T
   Bili:127/1.9, Amylase / Lipase:59/37, Differential-Neuts:87.3 %,
   Lymph:6.6 %, Mono:5.1 %, Eos:0.2 %, Fibrinogen:431 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.8 g/dL, LDH:268 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   Impression: 57F w/ h/o alcoholic cirrhosis, NSAID, and cirrhosis a/w
   hematemesis.
   1. UGIB
 diff dx includes varices, PUD.  Appreciate liver input.
   Likely will need repeat EGD- if varix visualized will likely need
   TIPS.  Has only needed plt/cryo while in house.
     - q6h hct, transfusion threshold 25
       - cont protonix gtt,
     -  octreotide gtt x5
     - surgery following
   2. Respiratory failure
 ARDS. Intubated for vocal cord spasm but now
   w/ low P/F ratio. ? shunt given high oxygen requirement and lack of
   correction.   Given h/o cirrhosis, may well have hepatopulmonary
   syndrome contributing.   CXR concerning for progression particularly at
   R base.  Collapse at bases due to abd distention likely
   underappreciated on CXR.   Also component of V/Q given worsening
   interstitial edema
 pulmonary edema vs TRALI vs aspiration vs.
   Definitely has collapsed LLL w/ air bronchograms on base of abd CT from
   [**9-23**].
   - Given GNRs in sputum double covering pseudomonas, repeat sputum
   culture.
   - change abx to vanc/cefepime x 8days.
   - wean FIO2 as tolerated, continue PEEP 8.
   -TTE to r/o intracardiac shunt.
   - repeat CXR
   - ARDS net vent (given b/l opacities).
   - will try propofol addition to attempt to maintain low Vt.
   3. Low grade fever
 possibly [**1-1**] OSH CVL (removed) vs. VAP vs. GIB and
   translocation.   Has remained w/o a vasopressor requirement thus far.
   Is on appropriate broad spectrum coverage.
   4. Abd distention- bladder pressure 15.  Likely due to massive
   resuscitation and third spacing.  Doubt ischemic bowel given
   hemodynamic stability.  Albumin 2.8  No ascites amenable to
   paracentesis when evaluated w/ u/s yesterday.  Dramatically improved
   today.
   5. Alcohol w/d- versed
   6. Non gap acidosis -  renal fxn intact.   If needs fluids will plan
   for D5 w/ bicarb.
   7. Leukocytosis-
   Other issues per Dr. [**First Name (STitle) 684**] note.
   ICU Care
   Nutrition: D5
   Glycemic Control:
   Lines:  L IJ cordis, RIJ CVL both OSH.  Pull cordis, resite RIJ.
   Cordis/Introducer - [**2181-10-25**] 04:50 AM
   Multi Lumen - [**2181-10-25**] 04:50 AM
   20 Gauge - [**2181-10-25**] 04:50 AM
   18 Gauge - [**2181-10-25**] 08:04 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  PPI
   VAP: Bundle
   Comments: Daily interupption
   Communication:
   Code status: Full
   Disposition : ICU
   Total time spent: 45 minutes
   ------ Protected Section ------
   Critical Care Attending:
   Patient admitted to ICU with GI bleed (hemetemesis) and acute
   respiratory failure following endoscopy. Portal gastropathy identified
   at endoscopy. No additional  transfusions required, although seems to
   be oozing small amount of blood. Melena still p resent. Hemodynamically
   stable. On octreotide and protonix. Respiratory status consistent with
   ARDS physiology although CXR not that impressive. Now down to FIO2=0.6.
   On vanco, zosyn, cipro (gram negative rods in sputum).
   On exam, patient intubated and sedated. Chest is very clear
   anteriorally and laterally. Heart sounds are soft. No gallop or murmur
   heard. Abdomen distended with reduced bowel sounds. Extremities warm
   and well perfused; good capillary refill.
   Patient still has moderate drainage of bloody material from OG tube,
   although Hct is stable at 40. Due for repeat endoscopy on Monday.
   Oxygenation improving. Would come down on FIO2 tonight to 50 and then
   try to reduce the PEEP further.
   Critical Care 30 mins.
   ------ Protected Section Addendum Entered By:[**Name (NI) 161**] [**Last Name (NamePattern1) **], MD
   on:[**2181-10-27**] 17:46 ------

2181-10-28 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   PEEP and FIO2 weaned overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2181-10-26**] 09:57 AM
   Vancomycin - [**2181-10-27**] 08:00 PM
   Ciprofloxacin - [**2181-10-28**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2181-10-28**] 12:00 AM
   Infusions:
   Propofol - 7 mcg/Kg/min
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-28**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.3
C (97.3
   HR: 84 (82 - 97) bpm
   BP: 103/54(73) {89/49(63) - 122/64(87)} mmHg
   RR: 28 (27 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 9 (9 - 15)mmHg
   Bladder pressure: 22 (22 - 22) mmHg
   Total In:
                                                                  5,032 mL
                                                                    489 mL
   PO:
   TF:
   IVF:
                                                                  5,032 mL
                                                                    489 mL
   Blood products:
   Total out:
                                                                  1,278 mL
                                                                    211 mL
   Urine:
                                                                    853 mL
                                                                    211 mL
   NG:
                                                                    350 mL
   Stool:
                                                                     75 mL
   Drains:
   Balance:
                                                                  3,754 mL
                                                                    278 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 36 cmH2O
   Plateau: 23 cmH2O
   SpO2: 98%
   ABG: 7.31/39/86.[**Numeric Identifier **]/18/-6
   Ve: 12.3 L/min
   PaO2 / FiO2: 174
   Physical Examination
   General: Intubated, sedated. Currently not responsive.
   HEENT: PERRL.  ETT in place
   Left SC CVL.
   CV: JVP 7 cm.  Regular S1,S2. No mr/r/g.
   Lungs: b/l coarse anterior rhonchi.
   Abd: +bs. Distended.  Tympanic to percussion.  +fluid wave.
   Trace LE edema.  No clubbing/cyanosis.
   Labs / Radiology
   81 K/uL
   13.5 g/dL
   121 mg/dL
   1.0 mg/dL
   18 mEq/L
   3.0 mEq/L
   22 mg/dL
   109 mEq/L
   136 mEq/L
   38.7 %
   11.6 K/uL
        [image002.jpg]
                            [**2181-10-26**]  08:43 PM
                            [**2181-10-26**]  10:58 PM
                            [**2181-10-27**]  01:42 AM
                            [**2181-10-27**]  03:31 AM
                            [**2181-10-27**]  03:45 AM
                            [**2181-10-27**]  12:18 PM
                            [**2181-10-27**]  05:58 PM
                            [**2181-10-27**]  06:00 PM
                            [**2181-10-28**]  03:31 AM
                            [**2181-10-28**]  03:42 AM
   WBC
   13.0
   11.6
   Hct
   38.4
   40.0
   39.7
   39.2
   38.7
   Plt
   74
   81
   Cr
   1.0
   1.0
   TCO2
   22
   21
   22
   20
   21
   Glucose
   121
   121
   Other labs: PT / PTT / INR:14.2/31.6/1.2, ALT / AST:22/49, Alk Phos / T
   Bili:109/4.1, Amylase / Lipase:59/37, Differential-Neuts:87.3 %,
   Lymph:6.6 %, Mono:5.1 %, Eos:0.2 %, Fibrinogen:493 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.8 g/dL, LDH:185 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.3 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   A/P
   57 yo F with alcoholic cirrhosis transferred from OSH with upper GI
   bleed now w/ ARDS and likely PNA/sepsis
   .
   #  Upper GI bleed:, now stable.  Hct slowly drifting down but still
   will significant bloody OG and rectal tube output. GI will likely scope
   Monday. INR stable
   - PPI [**Hospital1 **]
   - octreotide drip for 5 days from [**10-25**]
   - TID Hct, with goal to keep Hct > 30 if acute drop from 38.7 and 25 if
   continued slow drop.
   - monitor for coagulopathy
   - >= 2 peripheral IVs at all times.
   - ABX ppx in setting of GIB (cipro & zosyn)
   - if decompensates, would refer to IR for TIPS per GI recs
   - GI/ hepatology follwing, plan for scope on Monday
   - follow fibrinogen, calcium, platelets
   .
   # Resp status: Intubated for vocal chord spasm in setting of EGD at
   OSH. A-a gradient surprisingly large for this indication; does not have
   ARDS but may have significant shunt from LLL consolidation vs collapse
   (which is slowly improving on CXR. Pt. on large doses of sedation and
   drawing tidal volumes larger than ARDS goals
   - Treat PNA w/ 7 days vanc/piptazo; double GNR covg with cipro given
   GNRs in sputum
   - serial ABGs, vent adjustments; room to decrease PEEP further today.
   # ETOH withdrawal: Hx of signicant ETOH abuse, level of 200 on
   adamission to OSH.
   - for now on versed for withdrawal but will transition to CIWA upon
   extubation
   .
   # ETOH abuse: thimaine, folate, SW
   .
   # FEN: IVFs / replete lytes prn / consider ppn if intubation continued
   past tomorrow
   # PPX: PPI, boots bowel regimen
   # ACCESS: PIV;  subclavian; A-line
   # CODE: full
   # CONTACT: Discussed with son [**Name (NI) 1470**] yesterday, not HCP but will serve as
   point person.
   # DISPO: ICU
   ICU Care
   Nutrition: consider ppn if intubation continued past tomorrow
   Glycemic Control:
   Lines:
   Arterial Line - [**2181-10-26**] 10:00 PM
   Multi Lumen - [**2181-10-27**] 01:16 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2181-10-28 07:47:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
    57F w/ h/o alcoholic cirrhosis, NSAID, and cirrhosis.
   OSH: EGD clot overlying bleeding vessel.  Put out 4L BRB  from NGT at
   OSH.  Initial HCT 25, total 12U PRBC, 2FFP, 1 cryo, 1 plt.
   24 Hour Events:
   Decreased FiO2 overnight
   Remained stable off vasopressors
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2181-10-26**] 09:57 AM
   Vancomycin - [**2181-10-27**] 08:00 PM
   Ciprofloxacin - [**2181-10-28**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2181-10-28**] 12:00 AM
   Infusions:
   Propofol - 7 mcg/Kg/min
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-28**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.3
C (97.3
   HR: 84 (82 - 97) bpm
   BP: 103/54(73) {89/49(63) - 122/64(87)} mmHg
   RR: 28 (27 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 9 (9 - 15)mmHg
   Bladder pressure: 22 (22 - 22) mmHg
                                Total In:
                                                                  5,032 mL
                                                                    492 mL
   PO:
                                TF:
   IVF:
                                                                  5,032 mL
                                                                    492 mL
   Blood products:
   Total out:
                                                                  1,278 mL
                                                                    211 mL
   Urine:
                                                                    853 mL
                                                                    211 mL
   NG:
                                                                    350 mL
   Stool:
                                                                     75 mL
   Drains:
   Balance:
                                                                  3,754 mL
                                                                    281 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 36 cmH2O
   Plateau: 23 cmH2O
   SpO2: 98%
   ABG: 7.31/39/86.[**Numeric Identifier **]/18/-6
   Ve: 12.3 L/min
   PaO2 / FiO2: 174
   Physical Examination
   General: Intubated, sedated. Currently not responsive.
   HEENT: PERRL.  ETT in place
   Left SC CVL.
   CV: JVP 7 cm.  Regular S1,S2. No mr/r/g.
   Lungs: b/l coarse anterior rhonchi.
   Abd: +bs. Distended.  Tympanic to percussion.  +fluid wave.
   Trace LE edema.  No clubbing/cyanosis.
   Labs / Radiology
   13.5 g/dL
   81 K/uL
   121 mg/dL
   1.0 mg/dL
   18 mEq/L
   3.0 mEq/L
   22 mg/dL
   109 mEq/L
   136 mEq/L
   38.7 %
   11.6 K/uL
        [image002.jpg]
                            [**2181-10-26**]  08:43 PM
                            [**2181-10-26**]  10:58 PM
                            [**2181-10-27**]  01:42 AM
                            [**2181-10-27**]  03:31 AM
                            [**2181-10-27**]  03:45 AM
                            [**2181-10-27**]  12:18 PM
                            [**2181-10-27**]  05:58 PM
                            [**2181-10-27**]  06:00 PM
                            [**2181-10-28**]  03:31 AM
                            [**2181-10-28**]  03:42 AM
   WBC
   13.0
   11.6
   Hct
   38.4
   40.0
   39.7
   39.2
   38.7
   Plt
   74
   81
   Cr
   1.0
   1.0
   TCO2
   22
   21
   22
   20
   21
   Glucose
   121
   121
   Other labs: PT / PTT / INR:14.2/31.6/1.2, ALT / AST:22/49, Alk Phos / T
   Bili:109/4.1, Amylase / Lipase:59/37, Differential-Neuts:87.3 %,
   Lymph:6.6 %, Mono:5.1 %, Eos:0.2 %, Fibrinogen:493 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.8 g/dL, LDH:185 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.3 mg/dL, PO4:2.6 mg/dL
   Impression: 57F w/ h/o alcoholic cirrhosis, NSAID, and cirrhosis a/w
   hematemesis.
   1. UGIB
 diff dx includes varices, PUD.  Appreciate liver input.
   Await repeat EGD- if varix visualized will likely need TIPS.  Continues
   to ooze BRB and have melana, although Hct trend has been slow.  Has
   only needed plt/cryo while in house.
     - q6h hct, transfusion threshold 25
      - cont protonix gtt,
     -  octreotide gtt x5
     -  surgery following
   2. Respiratory failure
 ARDS, although physiologically compliance has
   not dropped. Intubated for vocal cord spasm but now w/ low P/F ratio.
   Collapse at bases due to abd distention likely underappreciated on
   CXR.   Also component of V/Q given worsening interstitial edema
   pulmonary edema vs TRALI vs aspiration, as well.  Definitely has
   collapsed LLL w/ air bronchograms on base of abd CT from [**9-23**] but has
   continued to expand over the last several days.
   - Given GNRs in sputum double covering pseudomonas, repeat sputum
   culture.
   - change abx to vanc/cefepime x 8days.
   - wean FIO2 as tolerated, continue to decrease PEEP.
   -TTE to r/o intracardiac shunt.
   - repeat CXR
   - ARDS net vent (given b/l opacities).
   3. Low grade fever
 possibly [**1-1**] OSH CVL (removed) vs. VAP vs. GIB and
   translocation.   Has remained w/o a vasopressor requirement thus far.
   Is on appropriate broad spectrum coverage.
   4. Abd distention- bladder pressure 15.  Likely due to massive
   resuscitation and third spacing.  Doubt ischemic bowel given
   hemodynamic stability.  Albumin 2.8  No ascites amenable to
   paracentesis when evaluated w/ u/s yesterday.  Dramatically improved
   today.
   5. Alcohol w/d- versed
   6. Non gap acidosis -  .   If needs fluids will plan for D5 w/ bicarb.
   Other issues per Dr. [**First Name (STitle) 684**] note.
   ICU Care
   Nutrition: D5, pending repeat EGD tomorrow.
   Glycemic Control:
   Lines:  L IJ cordis, RIJ CVL both OSH.  Pull cordis, resite RIJ.
   Cordis/Introducer - [**2181-10-25**] 04:50 AM
   Multi Lumen - [**2181-10-25**] 04:50 AM
   20 Gauge - [**2181-10-25**] 04:50 AM
   18 Gauge - [**2181-10-25**] 08:04 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  PPI
   VAP: Bundle
   Comments: Daily interupption
   Communication:  Son in law
   Code status: Full
   Disposition : ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   I was physically present with the housetaff team on this date for
   discussion of the above history, exam, data and assessment and plan
   with which I agree.  I would add the following comments.
   Patient is a 57 yo female admitted with hematemesis and given large
   volume transfusion with HCT=47 and was intubated prior to EGD at the
   OSH.  Patient did have EGD here with clot in stomach and portal
   gastropathy seen.  No intervention performed.
   Now
   EXAM-
   -Patient with limited RR in PSV and baseline Ve appears to be 12 for
   requirement
   CXR
Left sided SC catheter in good position.  ETT in good position and
   OGT in good position.  He has significant left sided effusion noted
   with some improvement in aeration.
   A/P-By problems
   1)Respiratory Failure
patient with bilateral infiltrates and left lower
   lobe collapse noted as possible contributors to persistent failure.
   -Continue A/C support
   -Will move to wean PEEP as tolerated
   -Look to move to PSV with further wean of sedation given
   apnea/bradypnea on PSV today
   2)GI Bleed-
   -EGD tomorrow for eval for intervention
   -Octreotide
   -PPI in place
   -HCT check to determine transfusion need
   Additional issues to be addressed as defined in the housestaff note of
   this date.
   Critical Care Time-34 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2181-10-28**] 17:06 ------

2181-10-29 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Upper GI bleed
   24 Hour Events:
   - hct stable; bloody OG output decreased
   - propofol and fent/versed weaned overnight; not pushed to possible
   limit because of scope today
   - vent weaned to PEEP 5, FiO2 50%
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2181-10-26**] 09:57 AM
   Vancomycin - [**2181-10-28**] 09:12 PM
   Ciprofloxacin - [**2181-10-29**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2181-10-29**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 7 mcg/Kg/min
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-29**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 89 (79 - 98) bpm
   BP: 126/60(85) {91/49(67) - 134/62(89)} mmHg
   RR: 28 (23 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 16 (8 - 20)mmHg
   Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                  2,729 mL
                                                                    468 mL
   PO:
   TF:
   IVF:
                                                                  2,729 mL
                                                                    468 mL
   Blood products:
   Total out:
                                                                  1,496 mL
                                                                    225 mL
   Urine:
                                                                    946 mL
                                                                    225 mL
   NG:
                                                                    350 mL
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  1,233 mL
                                                                    243 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 55
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.39/29/129/18/-5
   Ve: 11.3 L/min
   PaO2 / FiO2: 258
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm, No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   98 K/uL
   13.3 g/dL
   128 mg/dL
   1.0 mg/dL
   18 mEq/L
   3.6 mEq/L
   16 mg/dL
   110 mEq/L
   137 mEq/L
   39.1 %
   10.6 K/uL
        [image002.jpg]
                            [**2181-10-27**]  03:45 AM
                            [**2181-10-27**]  12:18 PM
                            [**2181-10-27**]  05:58 PM
                            [**2181-10-27**]  06:00 PM
                            [**2181-10-28**]  03:31 AM
                            [**2181-10-28**]  03:42 AM
                            [**2181-10-28**]  12:58 PM
                            [**2181-10-28**]  02:42 PM
                            [**2181-10-29**]  03:26 AM
                            [**2181-10-29**]  06:21 AM
   WBC
   11.6
   10.6
   Hct
   39.7
   39.2
   38.7
   39.3
   39.1
   Plt
   81
   98
   Cr
   1.0
   1.0
   TCO2
   22
   20
   21
   18
   18
   Glucose
   121
   128
   Other labs: PT / PTT / INR:14.7/31.2/1.3, ALT / AST:20/60, Alk Phos / T
   Bili:143/4.5, Amylase / Lipase:59/37, Differential-Neuts:87.3 %,
   Lymph:6.6 %, Mono:5.1 %, Eos:0.2 %, Fibrinogen:493 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.8 g/dL, LDH:185 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR: Unchanged bilateral opacities
   Microbiology: GRAM STAIN (Final [**2181-10-25**]):
         <10 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         QUALITY OF SPECIMEN CANNOT BE ASSESSED.
      RESPIRATORY CULTURE (Final [**2181-10-27**]):
         SPARSE GROWTH Commensal Respiratory Flora.
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
   GRAM STAIN (Final [**2181-10-27**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   BUDDING YEAST.
      RESPIRATORY CULTURE (Preliminary):
         Further incubation required to determine the presence or absence
   of
         commensal respiratory flora.
         YEAST.    SPARSE GROWTH.
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   A/P
   57 yo F with alcoholic cirrhosis transferred from OSH with upper GI
   bleed now w/ ARDS and likely PNA/sepsis
   .
   #  Upper GI bleed:, now stable.  Hct stable with slightly improved
   bloody OG and rectal tube output. GI will likely scope today. INR
   stable
   - PPI [**Hospital1 **]
   - octreotide drip for 5 days from [**10-25**]
   - [**Hospital1 **] Hct, with goal to keep Hct > 30 if acute drop from 38.7 and 25 if
   continued slow drop.
   - monitor for coagulopathy
   - >= 2 peripheral IVs at all times.
   - ABX ppx in setting of GIB (cipro & zosyn)
   - if decompensates, would refer to IR for TIPS per GI recs
   - GI/ hepatology follwing, plan for scope on Monday
   - follow fibrinogen, calcium, platelets
   .
   # Resp status: Intubated for vocal chord spasm in setting of EGD at
   OSH. A-a gradient surprisingly large for this indication; does not have
   ARDS but may have significant shunt from LLL consolidation vs collapse
   (which is slowly improving on CXR. Pt. on large doses of sedation and
   drawing tidal volumes larger than ARDS goals
   - Treat PNA w/ 7 days vanc/piptazo; double GNR covg with cipro given
   GNRs in sputum
   - serial ABGs, vent adjustments; room to decrease FiO2 and sedation
   today after scope.
   -Potentially extubate later today or tomorrow
   # ETOH withdrawal: Hx of signicant ETOH abuse, level of 200 on
   adamission to OSH.
   - for now on versed for withdrawal but will transition to CIWA upon
   extubation
   .
   # ETOH abuse: thimaine, folate, SW
   .
   # FEN: IVFs / replete lytes prn / consider ppn if intubation continued
   past tomorrow
   # PPX: PPI, boots bowel regimen
   # ACCESS: PIV;  subclavian; A-line
   # CODE: full
   # CONTACT: Discussed with son [**Name (NI) 1470**] yesterday, not HCP but will serve as
   point person.
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2181-10-26**] 10:00 PM
   Multi Lumen - [**2181-10-27**] 01:16 AM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer:  PPI [**Hospital1 **]
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2181-10-29 12:21:00 Physician Attending Progress Note
HPI:
    57yoF with cirrhosis here with UGIB and respiratory failure
   24 Hour Events:
   Failed SBT yesterday.
   HCT stable and did not require transfusions.
   Plan for EGD today to evaluate for varices
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2181-10-29**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2181-10-29**] 08:00 AM
   Vancomycin - [**2181-10-29**] 08:30 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 7 mcg/Kg/min
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2181-10-29**] 08:00 AM
   Other medications:
   Bronchodilators
   Peridex
   Thiamine
   Folic Acid
   MVI
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-29**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 85 (79 - 98) bpm
   BP: 148/76(107) {96/52(70) - 153/76(108)} mmHg
   RR: 21 (21 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 16 (8 - 18)mmHg
   Total In:
                                                                  2,729 mL
                                                                  1,119 mL
   PO:
   TF:
   IVF:
                                                                  2,729 mL
                                                                  1,121 mL
   Blood products:
   Total out:
                                                                  1,496 mL
                                                                    655 mL
   Urine:
                                                                    946 mL
                                                                    605 mL
   NG:
                                                                    350 mL
                                                                     50 mL
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  1,233 mL
                                                                    466 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 55
   PIP: 28 cmH2O
   Plateau: 18 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 97%
   ABG: 7.39/29/129/18/-5
   Ve: 13.7 L/min
   PaO2 / FiO2: 258
   Physical Examination
   Gen: Sedated, intubated
   Chest:CTAB
   CV: RRR without audible murmrur
   Abd: s/nt/nd
   Ext:1+ edema LE B
   Labs / Radiology
   13.3 g/dL
   98 K/uL
   128 mg/dL
   1.0 mg/dL
   18 mEq/L
   3.6 mEq/L
   16 mg/dL
   110 mEq/L
   137 mEq/L
   39.1 %
   10.6 K/uL
        [image002.jpg]
                            [**2181-10-27**]  03:45 AM
                            [**2181-10-27**]  12:18 PM
                            [**2181-10-27**]  05:58 PM
                            [**2181-10-27**]  06:00 PM
                            [**2181-10-28**]  03:31 AM
                            [**2181-10-28**]  03:42 AM
                            [**2181-10-28**]  12:58 PM
                            [**2181-10-28**]  02:42 PM
                            [**2181-10-29**]  03:26 AM
                            [**2181-10-29**]  06:21 AM
   WBC
   11.6
   10.6
   Hct
   39.7
   39.2
   38.7
   39.3
   39.1
   Plt
   81
   98
   Cr
   1.0
   1.0
   TCO2
   22
   20
   21
   18
   18
   Glucose
   121
   128
   Other labs: PT / PTT / INR:14.7/31.2/1.3, ALT / AST:20/60, Alk Phos / T
   Bili:143/4.5, Amylase / Lipase:59/37, Differential-Neuts:87.3 %,
   Lymph:6.6 %, Mono:5.1 %, Eos:0.2 %, Fibrinogen:493 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.8 g/dL, LDH:185 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   57yoF with cirrhosis and here with UGIB.
   1.       Cirrhosis/GIB: Hemodynamically stable. No recent transfusions.
   - EGD for eval of varices today
   - Octreotide for portal HTN and bleeding
   - Following HCT frequently, transfuse PRN
   2.       Respiratory Failure:
   - After EGD, plan to lighten sedation/SBT
   - Decrease FiO2 (PaO2 120 on .5)
   3. ETOH:
   - Thiamine/folate/MVI
   - no evidence of withdrawal at this time
   ICU Care
   Nutrition: Holding tube feeds for EGD
   Glycemic Control:  Insulin sliding scale
   Lines:
   Arterial Line - [**2181-10-26**] 10:00 PM
   Multi Lumen - [**2181-10-27**] 01:16 AM
   Prophylaxis:
   DVT: Holding heparin; TEDS/Boots
   Stress ulcer:  PPI
   VAP:  HOB/peridex/mouthcare.  SBT/sedation lightening today
   Communication:  Discuss with family today
   Code status:  Full code
   Disposition : Remains in ICU
   Total time spent:  35min; patient is critically ill

2181-10-30 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 57 yo F with ESLD and UGIB
   24 Hour Events:
 ENDOSCOPY - At [**2181-10-29**] 03:30 PM
   - EGD: potential ulcer in fundus. No gastric varices. Rec: Carafate 1
   gram QID, IV PPI, discontinue octreotide.
   - Weaned vent/sedation until patient became agitated/tachypnic.  RSBI
   60
   - Failed SBT for RR > 35
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2181-10-29**] 08:00 PM
   Ciprofloxacin - [**2181-10-30**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2181-10-30**] 12:00 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2181-10-29**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-30**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36
C (96.8
   HR: 108 (80 - 108) bpm
   BP: 176/90(129) {120/61(86) - 198/105(148)} mmHg
   RR: 33 (18 - 34) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  2,269 mL
                                                                  1,268 mL
   PO:
             TF:
   IVF:
                                                                  2,269 mL
                                                                  1,188 mL
   Blood products:
   Total out:
                                                                  2,310 mL
                                                                    530 mL
   Urine:
                                                                  2,060 mL
                                                                    530 mL
   NG:
                                                                     50 mL
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                    -41 mL
                                                                    738 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 477 (396 - 585) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 106
   RSBI Deferred: RR >35
   PIP: 11 cmH2O
   Plateau: 18 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 91%
   ABG: 7.45/26/180/17/-3
   Ve: 14.9 L/min
   PaO2 / FiO2: 450
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   118 K/uL
   14.3 g/dL
   175 mg/dL
   0.9 mg/dL
   17 mEq/L
   3.6 mEq/L
   13 mg/dL
   110 mEq/L
   138 mEq/L
   41.4 %
   11.3 K/uL
        [image002.jpg]
                            [**2181-10-28**]  03:31 AM
                            [**2181-10-28**]  03:42 AM
                            [**2181-10-28**]  12:58 PM
                            [**2181-10-28**]  02:42 PM
                            [**2181-10-29**]  03:26 AM
                            [**2181-10-29**]  06:21 AM
                            [**2181-10-29**]  05:06 PM
                            [**2181-10-29**]  11:49 PM
                             [**2181-10-30**]  03:27 AM
                             [**2181-10-30**]  04:52 AM
   WBC
   11.6
   10.6
   11.4
   11.3
   Hct
   38.7
   39.3
   39.1
   40.4
   41.4
   Plt
   81
   98
   93
   118
   Cr
   1.0
   1.0
   0.9
   TCO2
   21
   18
   18
   17
   19
   Glucose
   121
   128
   175
   Other labs: PT / PTT / INR:15.1/30.3/1.3, ALT / AST:22/61, Alk Phos / T
   Bili:163/5.0, Amylase / Lipase:59/37, Differential-Neuts:87.3 %,
   Lymph:6.6 %, Mono:5.1 %, Eos:0.2 %, Fibrinogen:518 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.8 g/dL, LDH:296 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.4 mg/dL, PO4:3.2 mg/dL
   Fluid analysis / Other labs: EGD:
   Varices at the lower third of the esophagus and gastroesophageal
   junction
   Varices at the lower third of the esophagus and gastroesophageal
   junction
   4-5 mm adherent clot overlying potential ulcer without active bleeding
   in fundus. Clot adherent despite numerous flushes.
   Erythema, congestion, mosaic appearance and abnormal vascularity in the
   whole stomach compatible with portal hypertensive gastropathy
   Otherwise normal EGD to second part of the duodenum
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   A/P
   57 yo F with alcoholic cirrhosis transferred from OSH with upper GI
   bleed now w/ ARDS and likely PNA/sepsis
   .
   #  Upper GI bleed:, now stable.  Hct stable with slightly improved
   bloody OG and rectal tube output. No active bleeding seen on EGD but
   small adherent ulcer and portal gastropathy seen
   - PPI [**Hospital1 **] plus Carafate
   -d/c octreotide drip
   - [**Hospital1 **] Hct, with goal to keep Hct > 30 if acute drop from 38.7 and 25 if
   continued slow drop.
   - monitor for coagulopathy
   - >= 2 peripheral IVs at all times.
   - ABX ppx in setting of GIB (cipro & zosyn)
   - if decompensates, would refer to IR for TIPS per GI recs
   - GI/ hepatology following, follow up recs
   - follow fibrinogen, calcium, platelets
   # Resp status: Intubated for vocal chord spasm in setting of EGD at
   OSH. A-a gradient surprisingly large for this indication; does not have
   ARDS but may have significant shunt from LLL consolidation vs collapse
   (which is slowly improving on CXR. Failed SBT this am for increased RR,
   likely respiratory compensation for metabolic acidosis
   - Treat PNA w/ 7 days vanc/piptazo; double GNR covg with cipro given
   GNRs in sputum
   - serial ABGs, vent adjustments. Hold on current settings for now, may
   increase PS for easier ventilation
   -Potentially extubate tomorrow
   #Metabolic acidosis: Non-gap acidosis. On no medications (diuretics)
   that could be contributing. Renal function normal.  Elevated osmolar
   gap but unlikely to be ethanol or methanol this late. [**Month (only) 11**] be starvation
   ketosis.
   -Consider feeding with tube feeds vs. IV D5W
   # ETOH withdrawal: Hx of signicant ETOH abuse, level of 200 on
   adamission to OSH.
   - for now on propofol for withdrawal but will transition to CIWA upon
   extubation
   .
   # ETOH abuse: thimaine, folate, SW
   .
   # FEN: IVFs / replete lytes prn / consider ppn if intubation continued
   past tomorrow
   # PPX: PPI, boots bowel regimen
   # ACCESS: PIV;  subclavian; A-line
   # CODE: full
   # CONTACT: Discussed with son [**Name (NI) 1470**] , not HCP but will serve as point
   person.
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2181-10-26**] 10:00 PM
   Multi Lumen - [**2181-10-27**] 01:16 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2181-10-30 10:34:00 Physician Attending Progress Note
HPI:
    57yoF with cirrhosis and GIB, intubated for airway protection in
   setting of GIB
   24 Hour Events:
   EGD yesterday without active bleeding lesion but did identfy likely
   source for prior UGI bleed.
   Increased RR this morning with SBT; now back on PSV.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2181-10-30**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2181-10-30**] 08:38 AM
   Vancomycin - [**2181-10-30**] 08:38 AM
   Infusions:
   Propofol
   Other ICU medications:
   Pantoprazole (Protonix) - [**2181-10-29**] 08:00 PM
   Albuterol/atrovent
   Insulin Sliding scale
   Other medications:
   Folic acid
   MVI
   Thiamine
   Carafate
   Lactulose prn
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2181-10-30**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 103 (80 - 108) bpm
   BP: 182/91(130) {120/72(100) - 198/105(148)} mmHg
   RR: 28 (18 - 36) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  2,269 mL
                                                                  1,889 mL
   PO:
             TF:
   IVF:
                                                                  2,269 mL
                                                                  1,809 mL
   Blood products:
   Total out:
                                                                  2,310 mL
                                                                  1,430 mL
   Urine:
                                                                  2,060 mL
                                                                  1,030 mL
   NG:
                                                                     50 mL
   Stool:
                                                                    200 mL
                                                                    400 mL
   Drains:
   Balance:
                                                                    -41 mL
                                                                    459 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 450 (396 - 585) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 34
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 106
   RSBI Deferred: RR >35
   PIP: 14 cmH2O
   Plateau: 18 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 92%
   ABG: 7.45/26/180/17/-3
   Ve: 15.2 L/min
   PaO2 / FiO2: 450
   Physical Examination
   Gen: Somnolent, does not follow commands
   Chest:  Clear anterior fields
   CV:  RRR no murmur
   Abd: s/nt/nd
   Ext: anasarca
   Labs / Radiology
   14.3 g/dL
   118 K/uL
   175 mg/dL
   0.9 mg/dL
   17 mEq/L
   3.6 mEq/L
   13 mg/dL
   110 mEq/L
   138 mEq/L
   41.4 %
   11.3 K/uL
        [image002.jpg]
                            [**2181-10-28**]  03:31 AM
                            [**2181-10-28**]  03:42 AM
                            [**2181-10-28**]  12:58 PM
                            [**2181-10-28**]  02:42 PM
                            [**2181-10-29**]  03:26 AM
                            [**2181-10-29**]  06:21 AM
                            [**2181-10-29**]  05:06 PM
                            [**2181-10-29**]  11:49 PM
                             [**2181-10-30**]  03:27 AM
                             [**2181-10-30**]  04:52 AM
   WBC
   11.6
   10.6
   11.4
   11.3
   Hct
   38.7
   39.3
   39.1
   40.4
   41.4
   Plt
   81
   98
   93
   118
   Cr
   1.0
   1.0
   0.9
   TCO2
   21
   18
   18
   17
   19
   Glucose
   121
   128
   175
   Other labs: PT / PTT / INR:15.1/30.3/1.3, ALT / AST:22/61, Alk Phos / T
   Bili:163/5.0, Amylase / Lipase:59/37, Differential-Neuts:87.3 %,
   Lymph:6.6 %, Mono:5.1 %, Eos:0.2 %, Fibrinogen:518 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.8 g/dL, LDH:296 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   57F with cirrhosis and now stable GIB.
   1. Respiratory failure:  Barriers to extubation include: mental status,
   possible component of volume overload, resolving PNA
   - Addressing mental status as below; minimize sedation: can consider
   haldol if needed for agitation.  Propofol at low dose if necessary.
   - Suspect component of hepato-pulmonary syndrome with shung given PaO2
   normal with low SpO2
   - Aim for TBB negative -500ml/1L
   2. GIB: Stable HCT, follow daily
   3. Cirrhosis:
   - lactulose/rifaxamin
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  Glucose stable
   Lines:
   Arterial Line - [**2181-10-26**] 10:00 PM
   Multi Lumen - [**2181-10-27**] 01:16 AM
   Prophylaxis:
   DVT: no heparin given GIB; TEDS/BOOTS
   Stress ulcer: PPI
   VAP:  HOB/peridex/mouthcare
   Communication:  Update family
   Code status:  Full Code
   Disposition : Remains critically ill in ICU
   Total time spent:  35minutes CCT

2181-10-31 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 57 yo F with polysubstance abuse, active alcoholism,
   alcoholic cirrhosis, chronic NSAID use transferred from OSH with upper
   GI bleed
   24 Hour Events:
   Did not attempt SBT as RSBI 158
   Was hyperpnic taking large tidal volumes and high rate w/ pH 7.5 so
   went back up on sedation.
   Diuresed o/n
   Started tube feeds, stopped at midnight
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2181-10-30**] 08:00 PM
   Ciprofloxacin - [**2181-10-31**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2181-10-31**] 12:00 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2181-10-30**] 11:00 AM
   Furosemide (Lasix) - [**2181-10-30**] 11:59 AM
   Pantoprazole (Protonix) - [**2181-10-30**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-31**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 89 (84 - 107) bpm
   BP: 164/76(110) {115/61(80) - 190/100(140)} mmHg
   RR: 30 (22 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  3,664 mL
                                                                    971 mL
   PO:
             TF:
                                                                    247 mL
                                                                    222 mL
   IVF:
                                                                  2,967 mL
                                                                    620 mL
   Blood products:
   Total out:
                                                                  5,935 mL
                                                                  1,615 mL
   Urine:
                                                                  4,885 mL
                                                                    915 mL
   NG:
   Stool:
                                                                  1,050 mL
                                                                    700 mL
   Drains:
   Balance:
                                                                 -2,271 mL
                                                                   -644 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 458 (439 - 527) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 151
   PIP: 19 cmH2O
   SpO2: 97%
   ABG: 7.50/23/151/20/-2
   Ve: 14.2 L/min
   PaO2 / FiO2: 302
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   132 K/uL
   13.3 g/dL
   131 mg/dL
   1.0 mg/dL
   20 mEq/L
   2.8 mEq/L
   10 mg/dL
   112 mEq/L
   144 mEq/L
   38.5 %
   12.1 K/uL
        [image002.jpg]
                            [**2181-10-28**]  02:42 PM
                            [**2181-10-29**]  03:26 AM
                            [**2181-10-29**]  06:21 AM
                            [**2181-10-29**]  05:06 PM
                            [**2181-10-29**]  11:49 PM
                             [**2181-10-30**]  03:27 AM
                             [**2181-10-30**]  04:52 AM
                             [**2181-10-30**]  11:24 AM
                             [**2181-10-31**]  03:10 AM
                             [**2181-10-31**]  03:52 AM
   WBC
   10.6
   11.4
   11.3
   12.1
   Hct
   39.3
   39.1
   40.4
   41.4
   38.5
   Plt
   98
   93
   118
   132
   Cr
   1.0
   0.9
   1.0
   TCO2
   18
   17
   19
   18
   19
   Glucose
   128
   175
   131
   Other labs: PT / PTT / INR:14.9/30.3/1.3, ALT / AST:23/55, Alk Phos / T
   Bili:188/3.7, Amylase / Lipase:59/37, Differential-Neuts:87.3 %,
   Lymph:6.6 %, Mono:5.1 %, Eos:0.2 %, Fibrinogen:518 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.8 g/dL, LDH:259 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.4 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR: My read: Slight worsening of RLL opacities.
   Microbiology: GRAM STAIN (Final [**2181-10-27**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   BUDDING YEAST.
      RESPIRATORY CULTURE (Final [**2181-10-29**]):
         Commensal Respiratory Flora Absent.
         YEAST.    SPARSE GROWTH.  OF TWO COLONIAL MORPHOLOGIES
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   A/P
   57 yo F with alcoholic cirrhosis transferred from OSH with upper GI
   bleed now w/ ARDS and likely PNA/sepsis
   # Resp status: Intubated for vocal chord spasm in setting of EGD at
   OSH. A-a gradient surprisingly large for this indication; does not have
   ARDS but may have significant shunt from LLL consolidation vs collapse
   (which is slowly improving on CXR. Failed SBT this am for increased RR
   after weening from sedation. Developing worsening respiratory
   alkalosis. Possibly due to hepatopulmonary vs. agitated delirium vs.
   withdrawal.
   - Treat PNA w/ 7 days vanc/piptazo; double GNR covg with cipro given
   GNRs in sputum
   -Continue sedation for now, haldol had no effect yesterday
   - serial ABGs, vent adjustments. Decrease PEEP and FiO2 today as
   oxygenation good
   #  Upper GI bleed:, now stable.  Hct stable with slightly improved
   bloody OG and rectal tube output. No active bleeding seen on EGD but
   small adherent ulcer and portal gastropathy seen
   - PPI [**Hospital1 **] plus Carafate
   -Daily Hct, with goal to keep Hct > 30 if acute drop from 38.7 and 25
   if continued slow drop.
   - monitor for coagulopathy
   - >= 2 peripheral IVs at all times.
   - ABX ppx in setting of GIB (cipro & zosyn)
   - if decompensates, would refer to IR for TIPS per GI recs
   - GI/ hepatology following, follow up recs
   - follow fibrinogen, calcium, platelets
   #Metabolic acidosis: Non-gap acidosis. On no medications (diuretics)
   that could be contributing. Renal function normal.  Elevated osmolar
   gap but unlikely to be ethanol or methanol this late. [**Month (only) 11**] be starvation
   ketosis.
   -Consider feeding with tube feeds vs. IV D5W
   # ETOH withdrawal: Hx of signicant ETOH abuse, level of 200 on
   adamission to OSH.
   - for now on propofol for withdrawal but will transition to CIWA upon
   extubation
   .
   # ETOH abuse: thimaine, folate, SW
   .
   # FEN: IVFs / replete lytes prn / consider ppn if intubation continued
   past tomorrow
   # PPX: PPI, boots bowel regimen
   # ACCESS: PIV;  subclavian; A-line
   # CODE: full
   # CONTACT: Discussed with son [**Name (NI) 1470**] , not HCP but will serve as point
   person.
   # DISPO: ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2181-10-30**] 12:00 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2181-10-26**] 10:00 PM
   Multi Lumen - [**2181-10-27**] 01:16 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:

2181-10-31 10:25:00 Physician Attending Progress Note
HPI:
   57F with cirrhosis, admitted with UGI at OSH and intubated for airway
   protection.
   24 Hour Events:
   Tachypnea off sedation.
   Diuresed yesterday.
   Allergies: No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2181-10-31**] 12:00 AM
   Vancomycin - [**2181-10-31**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2181-10-31**] 09:00 AM
   Infusions: Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2181-10-30**] 11:00 AM
   Furosemide (Lasix) - [**2181-10-30**] 11:59 AM
   Pantoprazole (Protonix) - [**2181-10-30**] 08:00 PM
   Other medications:
   Atrovent/albuterol
   Peridex
   Thiamine
   Folic Acid
   MVI
   Insulin sliding scale
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-31**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 104 (84 - 107) bpm
   BP: 168/84(118) {115/61(80) - 190/100(140)} mmHg
   RR: 33 (22 - 35) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  3,664 mL
                                                                  1,605 mL
   PO:
             TF:
                                                                    247 mL
                                                                    253 mL
   IVF:
                                                                  2,967 mL
                                                                  1,131 mL
   Blood products:
   Total out:
                                                                  5,935 mL
                                                                  1,925 mL
   Urine:
                                                                  4,885 mL
                                                                  1,225 mL
   NG:
   Stool:
                                                                  1,050 mL
                                                                    700 mL
   Drains:
   Balance:
                                                                 -2,271 mL
                                                                   -320 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 456 (439 - 527) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 67
   PIP: 6 cmH2O
   SpO2: 95%
   ABG: 7.50/23/151/20/-2
   Ve: 11.3 L/min
   PaO2 / FiO2: 302
   Physical Examination
   Gen Somnolent, does not respond to commands.  + cough:
   Chest Clear lungs:
   CV RRR:
   Abd: s/nt/nd:
   Ext: anasarca
   Labs / Radiology
   13.3 g/dL
   132 K/uL
   131 mg/dL
   1.0 mg/dL
   20 mEq/L
   2.8 mEq/L
   10 mg/dL
   112 mEq/L
   144 mEq/L
   38.5 %
   12.1 K/uL
        [image002.jpg]
                            [**2181-10-28**]  02:42 PM
                            [**2181-10-29**]  03:26 AM
                            [**2181-10-29**]  06:21 AM
                            [**2181-10-29**]  05:06 PM
                            [**2181-10-29**]  11:49 PM
                             [**2181-10-30**]  03:27 AM
                             [**2181-10-30**]  04:52 AM
                             [**2181-10-30**]  11:24 AM
                             [**2181-10-31**]  03:10 AM
                             [**2181-10-31**]  03:52 AM
   WBC
   10.6
   11.4
   11.3
   12.1
   Hct
   39.3
   39.1
   40.4
   41.4
   38.5
   Plt
   98
   93
   118
   132
   Cr
   1.0
   0.9
   1.0
   TCO2
   18
   17
   19
   18
   19
   Glucose
   128
   175
   131
   Other labs: PT / PTT / INR:14.9/30.3/1.3, ALT / AST:23/55, Alk Phos / T
   Bili:188/3.7, Amylase / Lipase:59/37, Differential-Neuts:87.3 %,
   Lymph:6.6 %, Mono:5.1 %, Eos:0.2 %, Fibrinogen:518 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.8 g/dL, LDH:259 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.4 mg/dL, PO4:2.9 mg/dL
   Micro:
   Sputum ([**10-27**]): negative
   Blood cultures ([**10-28**]): NGTD
   Assessment and Plan
   57yoF with cirrhosis s/p UGI bleed; now with persistent respiratory
   status secondary to mental status.
   1.  Respiratory failure:  High RSBI and respiratory alkalosis when off
   sedation.  Suspect anxiety/pain response.
   - Sedation seems to be a primary issue driving respiratory rate.  Trial
   precidex today and f/u mental status later.
   - Goal diuresis today and f/u secretions. Dose Lasix.
   2.  GI: GIB stable
   - daily HCT
   - place NGT
   3. ID:  PNA; D#[**5-7**] antibiotics
   - Plan vancomycin/zosyn; d/c ciprofloxacin
   ICU Care
   Nutrition: Place NGT today given need for enteral access
   post-extubation
   Glycemic Control:  glucose well controlled
   Lines:
   Arterial Line - [**2181-10-26**] 10:00 PM
   Multi Lumen - [**2181-10-27**] 01:16 AM
   Prophylaxis:
   DVT: no heparin given recent bleed; TEDS/BOOTS
   Stress ulcer:  PPI
   VAP: peridex/HOB
   Communication:  Will update family
   Code status:  Full Code
   Disposition : Remains in ICU
   Total time spent:  35minutes CCT

2181-11-01 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Extubated on precedex, doing well
   NGT placed
   Diuresed well
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2181-10-31**] 12:00 AM
   Vancomycin - [**2181-10-31**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2181-11-1**] 12:42 AM
   Infusions:
   Dexmedetomidine (Precedex) - 0.2 mcg/Kg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2181-10-31**] 10:34 AM
   Pantoprazole (Protonix) - [**2181-10-31**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-11-1**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.1
   HR: 79 (79 - 106) bpm
   BP: 155/77(109) {131/60(86) - 173/85(122)} mmHg
   RR: 25 (21 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  3,060 mL
                                                                  1,124 mL
   PO:
             TF:
                                                                    253 mL
                                                                    174 mL
   IVF:
                                                                  2,406 mL
                                                                    770 mL
   Blood products:
   Total out:
                                                                  6,350 mL
                                                                  1,825 mL
   Urine:
                                                                  5,150 mL
                                                                    925 mL
   NG:
   Stool:
                                                                  1,200 mL
                                                                    900 mL
   Drains:
   Balance:
                                                                 -3,290 mL
                                                                   -701 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 504 (456 - 504) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI: 67
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///21/
   Ve: 14 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   151 K/uL
   13.4 g/dL
   158 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.5 mEq/L
   7 mg/dL
   114 mEq/L
   147 mEq/L
   38.7 %
   14.5 K/uL
        [image002.jpg]
                            [**2181-10-29**]  03:26 AM
                            [**2181-10-29**]  06:21 AM
                            [**2181-10-29**]  05:06 PM
                            [**2181-10-29**]  11:49 PM
                             [**2181-10-30**]  03:27 AM
                             [**2181-10-30**]  04:52 AM
                             [**2181-10-30**]  11:24 AM
                             [**2181-10-31**]  03:10 AM
                             [**2181-10-31**]  03:52 AM
                             [**2181-11-1**]  03:57 AM
   WBC
   10.6
   11.4
   11.3
   12.1
   14.5
   Hct
   39.1
   40.4
   41.4
   38.5
   38.7
   Plt
   98
   93
   118
   132
   151
   Cr
   1.0
   0.9
   1.0
   1.0
   TCO2
   18
   17
   19
   18
   19
   Glucose
   128
   175
   131
   158
   Other labs: PT / PTT / INR:15.1/29.1/1.3, ALT / AST:23/55, Alk Phos / T
   Bili:188/3.7, Amylase / Lipase:59/37, Differential-Neuts:87.3 %,
   Lymph:6.6 %, Mono:5.1 %, Eos:0.2 %, Fibrinogen:518 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.8 g/dL, LDH:259 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.8 mg/dL
   57 yo F with alcoholic cirrhosis transferred from OSH with upper GI
   bleed now w/ ARDS and likely PNA/sepsis
   # Resp status: Intubated for vocal chord spasm in setting of EGD at
   OSH. A-a gradient surprisingly large for this indication; does not have
   ARDS but may have significant shunt from LLL consolidation vs collapse
   (which is slowly improving on CXR. Failed SBT this am for increased RR
   after weening from sedation. Developing worsening respiratory
   alkalosis. Possibly due to hepatopulmonary vs. agitated delirium vs.
   withdrawal.vs agitation from small ETT. Haldol had little effect
   yesterday
   - Treat PNA w/ 7 days vanc/piptazo, d/c cipro
   -Change sedation to Precedex with anticipated extubation tomorrow am
   -Diurese with IV lasix, goal ->1L
   - serial ABGs, vent adjustments. Decrease PEEP and FiO2 today as
   oxygenation good
   #  Upper GI bleed:, now stable.  Hct stable with slightly improved
   bloody OG and rectal tube output. No active bleeding seen on EGD but
   small adherent ulcer and portal gastropathy seen
   - PPI [**Hospital1 **] plus Carafate
   -Daily Hct, with goal to keep Hct > 30 if acute drop from 38.7 and 25
   if continued slow drop.
   - monitor for coagulopathy
   - >= 2 peripheral IVs at all times.
   - ABX ppx in setting of GIB (cipro & zosyn)
   - if decompensates, would refer to IR for TIPS per GI recs
   - GI/ hepatology following, follow up recs
   - follow fibrinogen, calcium, platelets
   #ESLD:  Continue lactulose and rifaxamin via NGT
   # ETOH withdrawal: Hx of signicant ETOH abuse, level of 200 on
   adamission to OSH.
   - for now on propofol for withdrawal but will transition to CIWA upon
   extubation
   .
   # ETOH abuse: thimaine, folate, SW
   .
   # FEN: IVFs / replete lytes prn / consider ppn if intubation continued
   past tomorrow
   # PPX: PPI, boots bowel regimen
   # ACCESS: PIV;  subclavian; A-line
   # CODE: full
   # CONTACT: Discussed with son [**Name (NI) 1470**] , not HCP but will serve as point
   person.
   # DISPO: ICU

2181-11-01 10:57:00 Physician Attending Progress Note
HPI:
   57F with cirrhosis, admitted with GIB which is stable.  Originally
   intubated for airway protection; extubated on [**10-31**].
   24 Hour Events:
   Extubated yesterday with assistance of precidex.
   Continued diuresis.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2181-11-1**] 08:00 AM
   Vancomycin - [**2181-11-1**] 08:00 AM
   Other ICU medications:
   Pantoprazole (Protonix) - [**2181-11-1**] 09:25 AM
   Sucralfate
   Other medications:
   Thiamine
   MVI
   Folic Acid
   Lactulose
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2181-11-1**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.5
C (97.7
   HR: 96 (79 - 105) bpm
   BP: 175/88(126) {131/60(86) - 175/88(126)} mmHg
   RR: 23 (21 - 34) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  3,060 mL
                                                                  1,729 mL
   PO:
             TF:
                                                                    253 mL
                                                                    275 mL
   IVF:
                                                                  2,406 mL
                                                                  1,185 mL
   Blood products:
   Total out:
                                                                  6,350 mL
                                                                  2,100 mL
   Urine:
                                                                  5,150 mL
                                                                  1,200 mL
   NG:
   Stool:
                                                                  1,200 mL
                                                                    900 mL
   Drains:
   Balance:
                                                                 -3,290 mL
                                                                   -371 mL
   Respiratory support
   O2 Delivery Device: FiO2 .7  humidified Face tent
   FiO2: 70%
   SpO2: 92%
   ABG: ///21/
   Ve: 14 L/min
   Physical Examination
   Gen: Awake
   Chest: monophasic high-pitched sound heard throughout anterior fields;
   best in RUL
   CV: RRR
   Abd:s/nt/nd
   Ext: 2+ LE edema
   Labs / Radiology
   13.4 g/dL
   151 K/uL
   158 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.5 mEq/L
   7 mg/dL
   114 mEq/L
   147 mEq/L
   38.7 %
   14.5 K/uL
        [image002.jpg]
                            [**2181-10-29**]  03:26 AM
                            [**2181-10-29**]  06:21 AM
                            [**2181-10-29**]  05:06 PM
                            [**2181-10-29**]  11:49 PM
                             [**2181-10-30**]  03:27 AM
                             [**2181-10-30**]  04:52 AM
                             [**2181-10-30**]  11:24 AM
                             [**2181-10-31**]  03:10 AM
                             [**2181-10-31**]  03:52 AM
                             [**2181-11-1**]  03:57 AM
   WBC
   10.6
   11.4
   11.3
   12.1
   14.5
   Hct
   39.1
   40.4
   41.4
   38.5
   38.7
   Plt
   98
   93
   118
   132
   151
   Cr
   1.0
   0.9
   1.0
   1.0
   TCO2
   18
   17
   19
   18
   19
   Glucose
   128
   175
   131
   158
   Other labs: PT / PTT / INR:15.1/29.1/1.3, ALT / AST:23/55, Alk Phos / T
   Bili:188/3.7, Amylase / Lipase:59/37, Differential-Neuts:87.3 %,
   Lymph:6.6 %, Mono:5.1 %, Eos:0.2 %, Fibrinogen:518 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.8 g/dL, LDH:259 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.8 mg/dL
   Micro: No new data
   CXR: Lower lung volumes, generally unchanged in 24h interval except for
   removal of ETT.
   Assessment and Plan
   57F with cirrhosis, intubated for airway protection in setting of GIB;
   extubated on [**10-31**].
   1. Hypoxemia and respiratory failure:  Extubated yesterday.
   - Some wheeze, sounds to be upper airway, suspect secretions and not
   stridor.  Aggressive pulmonary toilet.
   - Diuresis, with goal TBB negative 1L today.
   - Continue bronchodilators.
   - wean O2 as tolerated.
   2. GIB: stable
   - trending HCT
   - sucralfate
   3. Neuro:  improving clarity and more awake
   - lactulose/rifaximin
   - off narcotics/benzos
   - Speech and swallow eval when more awake
   4. ID: WBC trending upwards
   - repeat cultures, UA/Ucx, cdiff
   5. CV: HTN today
   - starting chlorthalidone
   ICU Care
   Nutrition:  Replete with Fiber (Full) - [**2181-11-1**] 01:26 AM 30 mL/hour
   Glycemic Control: Glucose range130-170; insulin sliding scale
   Lines:
   Arterial Line - [**2181-10-26**] 10:00 PM
 d/c arterial line
   Multi Lumen - [**2181-10-27**] 01:16 AM
   Prophylaxis:
   DVT: Holding heparin for concern for bleed, Teds/boots
   Stress ulcer:  PPI/sucralfate
   VAP:  now extubated
   Communication:  Update family today
   Code status:  Full code
   Disposition : Remains in ICU until oxygenation improves off face mask
   Total time spent:  35minutes CCT

2181-11-02 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Diuresed well with lasix.  Lost significant K. Got acapella.  Agitated,
   responded to haldol 2.5.  Not called out given sig. O2 req.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2181-10-31**] 12:00 AM
   Vancomycin - [**2181-11-1**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2181-11-1**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2181-11-1**] 04:45 PM
   Carafate (Sucralfate) - [**2181-11-1**] 06:00 PM
   Pantoprazole (Protonix) - [**2181-11-1**] 09:00 PM
   Haloperidol (Haldol) - [**2181-11-2**] 03:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-11-2**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.8
   HR: 102 (86 - 113) bpm
   BP: 144/66(99) {142/65(94) - 175/88(126)} mmHg
   RR: 27 (22 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  3,037 mL
                                                                  1,438 mL
   PO:
             TF:
                                                                    828 mL
                                                                    438 mL
   IVF:
                                                                  1,529 mL
                                                                    600 mL
   Blood products:
   Total out:
                                                                  6,215 mL
                                                                    805 mL
   Urine:
                                                                  4,215 mL
                                                                    805 mL
   NG:
   Stool:
                                                                    900 mL
   Drains:
   Balance:
                                                                 -3,178 mL
                                                                    633 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Face tent
   SpO2: 94%
   ABG: 7.52/29/128/21/2
   PaO2 / FiO2: 213
   Physical Examination
   Gen: Alert but disoriented
   HEENT: No scleral icteurs
   Heart: Tachycardic, Regular
   Lungs: Diffuse end-expiratory wheezes
   Abd: Soft, NT, Mildly distended w/ shifting dullness.
   Ext: Trace pitting edema
   Labs / Radiology
   148 K/uL
   13.2 g/dL
   187 mg/dL
   0.8 mg/dL
   21 mEq/L
   5.2 mEq/L
   8 mg/dL
   112 mEq/L
   144 mEq/L
   39.3 %
   16.6 K/uL
        [image002.jpg]
                             [**2181-10-30**]  11:24 AM
                             [**2181-10-31**]  03:10 AM
                             [**2181-10-31**]  03:52 AM
                             [**2181-11-1**]  03:57 AM
                             [**2181-11-1**]  11:27 AM
                             [**2181-11-1**]  04:33 PM
                             [**2181-11-1**]  05:09 PM
                             [**2181-11-2**]  12:24 AM
                             [**2181-11-2**]  03:56 AM
                             [**2181-11-2**]  04:01 AM
   WBC
   12.1
   14.5
   16.6
   Hct
   38.5
   38.7
   39.3
   Plt
   132
   151
   148
   Cr
   1.0
   1.0
   0.9
   0.8
   TCO2
   18
   19
   24
   24
   16
   24
   Glucose
   131
   158
   121
   187
   Other labs: PT / PTT / INR:14.2/28.2/1.2, ALT / AST:27/63, Alk Phos / T
   Bili:217/3.2, Amylase / Lipase:59/37, Differential-Neuts:87.3 %,
   Lymph:6.6 %, Mono:5.1 %, Eos:0.2 %, Fibrinogen:518 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.7 g/dL, LDH:333 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   57 yo F with alcoholic cirrhosis transferred from OSH with upper GI
   bleed now w/ ARDS and likely PNA/sepsis
   # Resp status: Has been tachypnic/hyperpnic w/ a respiratory alkalosis
   since extubation. Also exhibited same behavior prior to extubation with
   weaning. Pt. appears very anxious with tachycardia and hypertension,
   appears hypervigilant. Still has significant O2 requirement but
   responded well to suctioning and diuresis.
   -          Wean O2
   -          Chest PT/suctioning
   # Altered mental status: Slowly improving. Nonfocal likely
   toxic/metabolic given prolonged intubation/sedation. Could be [**1-1**]
   infection, possibly SBP. Likely from prolonged intubation/ slow
   clearance of sedating medications.
   -          follow neuro exam
   -          Paracentesis
   #Leukocytosis: Cdiff negative yesterday. Concern for possible line
   infection, line sites are not significantly erythematous w/ no
   purulence. Would also consider SBP in this cirrhotic. Could also be
   secondary to skin breakdown around anus w/ frequent stooling.
   - decrease frequency of lactulose.
   - Paracentesis
   - blood cultures
   - Hold Abx for now
   .
   #  Upper GI bleed:, Stable, no e/o continued bleeding.
   - PPI [**Hospital1 **] plus Carafate
   -Daily Hct, with goal to keep Hct > 30 if acute drop from 38.7 and 25
   if continued slow drop.
   - monitor for coagulopathy
   - >= 2 peripheral IVs at all times.
   - if decompensates, would refer to IR for TIPS per GI recs
   - GI/ hepatology following, follow up recs
   #ESLD:  MELD 14. Doubt that her confusion is [**1-1**] ESLD given low MELD.
   Continue lactulose and rifaxamin via NGT
   -          F/u liver recs
   -          Avoid benzos, NSAIDs
   .
   # ETOH abuse: thimaine, folate, SW when able to communicate
   .
   # FEN: IVFs / replete lytes prn /
   # PPX: PPI, boots bowel regimen
   # ACCESS: PIV;  subclavian; A-line d/c both if hypoxia continues to
   improve
   # CODE: full
   # CONTACT: Discussed with son [**Name (NI) 1470**] , not HCP but will serve as point
   person.
   # DISPO: ICU, consider call out if able to wean O2

2181-11-02 11:31:00 Physician Attending Progress Note
HPI:
   57yoF with cirrhosis; here with GIB.  Extubated x 2 days.
   24 Hour Events:
   Diuresed yesterday.
   Remained in ICU secondary to oxygenation.
   Febrile this morning.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2181-11-1**] 08:00 AM
   Vancomycin - [**2181-11-1**] 08:00 AM
   Other ICU medications:
   Furosemide (Lasix) - [**2181-11-1**] 04:45 PM
   Carafate (Sucralfate) - [**2181-11-1**] 06:00 PM
   Haloperidol (Haldol) - [**2181-11-2**] 03:16 AM
   Pantoprazole (Protonix) - [**2181-11-2**] 08:00 AM
   Other medications:
   Captopril 25mg tid
   Lactulose
   Ipatropium
   Albuterol
   Rifaxamin
   Insulin sliding scale
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-11-2**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (98.9
   HR: 100 (87 - 113) bpm
   BP: 147/70(103) {142/65(94) - 174/87(125)} mmHg
   RR: 27 (22 - 33) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  3,037 mL
                                                                  1,713 mL
   PO:
             TF:
                                                                    828 mL
                                                                    666 mL
   IVF:
                                                                  1,529 mL
                                                                    647 mL
   Blood products:
   Total out:
                                                                  6,215 mL
                                                                  1,050 mL
   Urine:
                                                                  4,215 mL
                                                                  1,050 mL
   NG:
   Stool:
                                                                    900 mL
   Drains:
   Balance:
                                                                 -3,178 mL
                                                                    665 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: 7.52/29/128/21/2
   PaO2 / FiO2: 213
   Physical Examination
   Gen: Awake, alert but disoriented and difficulty following commands.
   Chest: Diffuse monophasic high-pitched expiratory sound
   CV: RRR
   Abd:s/nt/mildly distended
   Ext: 2+ edema
   Labs / Radiology
   13.2 g/dL
   148 K/uL
   187 mg/dL
   0.8 mg/dL
   21 mEq/L
   5.2 mEq/L
   8 mg/dL
   112 mEq/L
   144 mEq/L
   39.3 %
   16.6 K/uL
        [image002.jpg]
                             [**2181-10-30**]  11:24 AM
                             [**2181-10-31**]  03:10 AM
                             [**2181-10-31**]  03:52 AM
                             [**2181-11-1**]  03:57 AM
                             [**2181-11-1**]  11:27 AM
                             [**2181-11-1**]  04:33 PM
                             [**2181-11-1**]  05:09 PM
                             [**2181-11-2**]  12:24 AM
                             [**2181-11-2**]  03:56 AM
                             [**2181-11-2**]  04:01 AM
   WBC
   12.1
   14.5
   16.6
   Hct
   38.5
   38.7
   39.3
   Plt
   132
   151
   148
   Cr
   1.0
   1.0
   0.9
   0.8
   TCO2
   18
   19
   24
   24
   16
   24
   Glucose
   131
   158
   121
   187
   Other labs: PT / PTT / INR:14.2/28.2/1.2, ALT / AST:27/63, Alk Phos / T
   Bili:217/3.2, Amylase / Lipase:59/37, Differential-Neuts:81.9 %,
   Lymph:10.6 %, Mono:5.8 %, Eos:1.3 %, Fibrinogen:518 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.7 g/dL, LDH:333 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   57yoF with cirrhosis and GIB; now with persistent altered mental status
   and hypoxemia.
   1.       Respiratory Failure:  Monophasic upper airway sound; slight
   wheezing. Respiratory alkalosis in setting of delirium.
   - check chest xray today
   - Continue diuresis gently; goal TBB negative 500ml.
   2.       Delirium: toxic-metabolic
   - Haldol for hypoactive delirium
   - Avoid benzos/narcotics
   3.       GIB: resolved
   - HCT stable.
   4.       Leukocytosis: cdiff negative
   - check blood cultures, urine/urine culture
   - d/c arterial line
   - Obtain peripheral IV and d/c CVL if possible
   - ultrasound abdomen to assess for ascites, possible paracentesis
   ICU Care
   Nutrition:  Replete with Fiber (Full) - [**2181-11-2**] 02:51 AM 60 mL/hour
   Glycemic Control:  glucose 120-190; insulin sliding scale
   Lines:
   Arterial Line - [**2181-10-26**] 10:00 PM: d/c today
   Multi Lumen - [**2181-10-27**] 01:16 AM: attempt to obtain PIV and d/c if
   feasible
   Prophylaxis:
   DVT: holding heparin for recent GIB; boots/teds -> restart heparin SQ
   today
   Stress ulcer: PPI
   VAP: Not intubated
   Communication:   Update family today
   Code status:  Full code
   Disposition : If oxygenation improves, can transfer to floor
   Total time spent:  25 minutes CCT

2181-11-03 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: UGIB
   Resp failure
   24 Hour Events:
 ULTRASOUND - At [**2181-11-2**] 10:00 AM
   Abdominal US
 PARACENTESIS - At [**2181-11-2**] 06:24 PM
   Got Abdominal U/s
   Leukocytosis continued to rise so sent cultures, Cdiff was negative,
   did Dx para which was negative.
   Desatted to high 80s w/ tachypnea and improved after 20mg IV lasix and
   suctioning.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2181-11-1**] 08:00 AM
   Vancomycin - [**2181-11-1**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2181-11-2**] 08:00 AM
   Haloperidol (Haldol) - [**2181-11-2**] 11:45 AM
   Furosemide (Lasix) - [**2181-11-2**] 07:35 PM
   Morphine Sulfate - [**2181-11-2**] 07:35 PM
   Labetalol - [**2181-11-3**] 01:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-11-3**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.4
   HR: 95 (82 - 108) bpm
   BP: 162/76(111) {141/66(94) - 189/95(133)} mmHg
   RR: 22 (19 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  3,301 mL
                                                                    219 mL
   PO:
             TF:
                                                                  1,171 mL
                                                                    145 mL
   IVF:
                                                                  1,160 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  1,890 mL
                                                                    460 mL
   Urine:
                                                                  1,890 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,411 mL
                                                                   -241 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: 7.47/36/94.[**Numeric Identifier 433**]/24/2
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   134 K/uL
   12.5 g/dL
   102 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.0 mEq/L
   12 mg/dL
   110 mEq/L
   143 mEq/L
   38.0 %
   15.6 K/uL
        [image002.jpg]
                             [**2181-11-1**]  04:33 PM
                             [**2181-11-1**]  05:09 PM
                             [**2181-11-2**]  12:24 AM
                             [**2181-11-2**]  03:56 AM
                             [**2181-11-2**]  04:01 AM
                             [**2181-11-2**]  02:09 PM
                             [**2181-11-2**]  07:23 PM
                             [**2181-11-2**]  08:53 PM
                             [**2181-11-3**]  04:53 AM
                             [**2181-11-3**]  05:16 AM
   WBC
   16.6
   15.6
   Hct
   39.3
   38.0
   Plt
   148
   134
   Cr
   0.9
   0.8
   0.7
   TCO2
   24
   16
   24
   24
   22
   24
   27
   Glucose
   121
   187
   102
   Other labs: PT / PTT / INR:14.2/28.2/1.2, ALT / AST:27/63, Alk Phos / T
   Bili:217/3.2, Amylase / Lipase:59/37, Differential-Neuts:82.8 %,
   Lymph:11.3 %, Mono:3.7 %, Eos:1.9 %, Fibrinogen:518 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.7 g/dL, LDH:333 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.7 mg/dL
   Imaging: CXR [**11-2**]:
   Left subclavian catheter unchanged. NGT tip beyond the inferior aspect
   of the
   study. Pulmonary edema and LUL opacity have improved from 7hour prior.
   Left
   retrocardiac basilar opacity persists, likely atelectasis (cannot
   exclude
   infection).
   Abd. U/S: read pending
   Microbiology: Para:
   GRAM STAIN (Final [**2181-11-2**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2181-11-2**]):
         Feces negative for C.difficile toxin A & B by EIA.
   Blood/urine cx [**11-2**]: pending
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   57 yo F with alcoholic cirrhosis transferred from OSH with upper GI
   bleed now w/ ARDS and likely PNA/sepsis
   # Resp status: Has been tachypnic/hyperpnic w/ a respiratory alkalosis
   since extubation. Also exhibited same behavior prior to extubation with
   weaning. Pt. appears very anxious with tachycardia and hypertension,
   appears hypervigilant. Still has significant O2 requirement but
   responded well to suctioning and diuresis.
   -          Wean O2
   -    Continue diuresis today, goal >1L negative
   -          Chest PT/suctioning
   -   Will check LENIS for risk stratification of PE but less likely
   # Altered mental status: Slowly improving. Nonfocal likely
   toxic/metabolic given prolonged intubation/sedation. Could be [**1-1**]
   infection, possibly SBP. Likely from prolonged intubation/ slow
   clearance of sedating medications.
   -          follow neuro exam
   -        PRN haldol for agitation
   #Leukocytosis: Cdiff negative yesterday. Concern for possible line
   infection, line sites are not significantly erythematous w/ no
   purulence. Would also consider SBP in this cirrhotic but para negative.
   Could also be secondary to skin breakdown around anus w/ frequent
   stooling. Improving today.
   -d/c CVL and a-line
   -F/U cultures
   - Hold Abx for now
   .
   #  Upper GI bleed:, Stable, no e/o continued bleeding.
   - PPI [**Hospital1 **] plus Carafate
   -Daily Hct, with goal to keep Hct > 30 if acute drop from 38.7 and 25
   if continued slow drop.
   - monitor for coagulopathy
   - >= 2 peripheral IVs at all times.
   - if decompensates, would refer to IR for TIPS per GI recs
   - GI/ hepatology following, follow up recs
   #ESLD:  MELD 14. Doubt that her confusion is [**1-1**] ESLD given low MELD.
   Continue lactulose and rifaxamin via NGT
   -          F/u liver recs
   -          Avoid benzos, NSAIDs
   # HTN: Still elevated  today on Captopril 50mg TID
   -Consider adding amlodipine today, hopefully will improve with
   decreased agitation
   .
   # ETOH abuse: thimaine, folate, SW when able to communicate
   .
   # FEN: IVFs / replete lytes prn /
   # PPX: PPI, boots bowel regimen
   # ACCESS: PIV;  subclavian; A-line d/c both if hypoxia continues to
   improve
   # CODE: full
   # CONTACT: Discussed with son [**Name (NI) 1470**] , not HCP but will serve as point
   person.
   # DISPO: ICU, consider call out if able to wean O2
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2181-11-3**] 05:00 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2181-10-26**] 10:00 PM
   Multi Lumen - [**2181-10-27**] 01:16 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2181-11-03 09:24:00 Physician Attending Progress Note
HPI:
    57yoF with cirrhosis, admitted with GIB requiring intubation.   Has
   remained hypoxemic following extubation.
   24 Hour Events:
   Abdominal ultrasound with minimal ascites;
   s/p paracentesis without evidence of SBP.
   Had episode of increased hypoxemia overnight transiently and then
   improved with suctioning and diuresis.  Uptitrated anti-hypertensives
   for increased BP.
   Off Abx, afeb
   Allergies:
   No Known Drug Allergies
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2181-11-2**] 11:45 AM
   Morphine Sulfate - [**2181-11-2**] 07:35 PM
   Labetalol - [**2181-11-3**] 01:03 AM
   Pantoprazole (Protonix) - [**2181-11-3**] 08:15 AM
   Furosemide (Lasix) - [**2181-11-3**] 08:15 AM
   Other medications:
   Folic acid
   MVI
   Thiamine
   Insulin sliding scale
   Carafate
   Rifaximin
   Captopril 50 tid
   Lactulose
   Amlodipine
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2181-11-3**] 09:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.4
   HR: 87 (82 - 108) bpm
   BP: 150/66(97) {141/66(94) - 189/95(133)} mmHg
   RR: 21 (19 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  3,301 mL
                                                                    390 mL
   PO:
             TF:
                                                                  1,171 mL
                                                                    246 mL
   IVF:
                                                                  1,160 mL
                                                                    144 mL
   Blood products:
   Total out:
                                                                  1,890 mL
                                                                    815 mL
   Urine:
                                                                  1,890 mL
                                                                    815 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,411 mL
                                                                   -426 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: 7.47/36/94
   PaO2 / FiO2: 99
   Physical Examination
   Gen: Awake, alert, able to answer questions:
in hospital
, month is
[**Month (only) 2965**]
   Chest: crackles at left base
   CV: RRR
   Abd: s/nt/nd
   Ext: no edema
   Labs / Radiology
   12.5 g/dL
   134 K/uL
   102 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.0 mEq/L
   12 mg/dL
   110 mEq/L
   143 mEq/L
   38.0 %
   15.6 K/uL
        [image002.jpg]
                             [**2181-11-1**]  04:33 PM
                             [**2181-11-1**]  05:09 PM
                             [**2181-11-2**]  12:24 AM
                             [**2181-11-2**]  03:56 AM
                             [**2181-11-2**]  04:01 AM
                             [**2181-11-2**]  02:09 PM
                             [**2181-11-2**]  07:23 PM
                             [**2181-11-2**]  08:53 PM
                             [**2181-11-3**]  04:53 AM
                             [**2181-11-3**]  05:16 AM
   WBC
   16.6
   15.6
   Hct
   39.3
   38.0
   Plt
   148
   134
   Cr
   0.9
   0.8
   0.7
   TCO2
   24
   16
   24
   24
   22
   24
   27
   Glucose
   121
   187
   102
   Other labs: PT / PTT / INR:14.2/28.2/1.2, ALT / AST:27/63, Alk Phos / T
   Bili:217/3.2, Amylase / Lipase:59/37, Differential-Neuts:82.8 %,
   Lymph:11.3 %, Mono:3.7 %, Eos:1.9 %, Fibrinogen:518 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.7 g/dL, LDH:333 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   57yoF with cirrhosis; persistent hypoxemia post-extubation.
   1. Respiratory: hypoxemia/respiratory alkalosis. Suspect component of
   agitation/delirium as well as volume overload and possible
   aspiration/mucus plugging
   - LENIS today to evaluate for DVT (negative); will hold on PE/CT given
   her improvement
   - continue bronchodilators
   - Diuresis today with goal TBB negative 500ml to 1L
   2.  Leukocytosis:  No clear source; off antibiotics currently.  No
   evidence of SBP or PNA.
   - Will d/c central line today once obtain peripheral access
   - Holding ABX given no clear source and overall improvement
   - f/u cultures
   3. CV:  HTN, possible episodes of acute pulmonary edema
   - Tritrate BP meds
   4. Neuro: continue lactulose/rifaxim
   - hold benzos
   ICU Care
   Nutrition:  Replete with Fiber (Full) - [**2181-11-3**] 05:00 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2181-10-26**] 10:00 PM
   Multi Lumen - [**2181-10-27**] 01:16 AM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: PPI
   VAP:  not intubated
   Communication:  Update family
   Code status:  Full code
   Disposition : Remain in ICU until improvement of oxygenation
   Total time spent:  35minutes CCT

2181-11-04 11:26:00 Physician Attending Progress Note
HPI:
   57F with cirrhosis, UGI bleed; now stable and improving oxygenation
   24 Hour Events:
   Weaned O2, improving mental status.
   CVL discontinued yesterday.
   LENIs negative for DVT
   Allergies:
   No Known Drug Allergies
   Other ICU medications:
   Haloperidol (Haldol) - [**2181-11-3**] 03:39 PM
   Carafate (Sucralfate) - [**2181-11-3**] 06:39 PM
   Heparin Sodium (Prophylaxis) - [**2181-11-4**] 06:21 AM
   Pantoprazole (Protonix) - [**2181-11-4**] 08:00 AM
   Other medications:
   Folic acid
   MVI
   Insulin sliding scale
   PPI
   Carafate
   Rifaxamin
   Captopril
   Amlodipine
   Nystatin
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2181-11-4**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.2
   HR: 104 (91 - 112) bpm
   BP: 140/61(80) {116/49(66) - 158/83(97)} mmHg
   RR: 25 (16 - 28) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  2,241 mL
                                                                    709 mL
   PO:
             TF:
                                                                  1,141 mL
                                                                    606 mL
   IVF:
                                                                    740 mL
                                                                     43 mL
   Blood products:
   Total out:
                                                                  2,100 mL
                                                                    590 mL
   Urine:
                                                                  2,100 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    141 mL
                                                                    119 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.47/33/77
   PaO2 / FiO2: 156
   Physical Examination
   Gen: awake, alert, follows commands
   Chest: Clear lungs, mildly decreased in posterior fields at bases. No
   crackles or wheeze
   CV:  RRR
   Abd: s/nt/nd
   Ext: 1+ edema
   Labs / Radiology
   12.3 g/dL
   151 K/uL
   159 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.3 mEq/L
   14 mg/dL
   107 mEq/L
   142 mEq/L
   38.3 %
   15.4 K/uL
        [image002.jpg]
                             [**2181-11-2**]  12:24 AM
                             [**2181-11-2**]  03:56 AM
                             [**2181-11-2**]  04:01 AM
                             [**2181-11-2**]  02:09 PM
                             [**2181-11-2**]  07:23 PM
                             [**2181-11-2**]  08:53 PM
                             [**2181-11-3**]  04:53 AM
                             [**2181-11-3**]  05:16 AM
                             [**2181-11-3**]  11:35 AM
                             [**2181-11-4**]  06:07 AM
   WBC
   16.6
   15.6
   15.4
   Hct
   39.3
   38.0
   38.3
   Plt
   148
   134
   151
   Cr
   0.8
   0.7
   0.7
   TCO2
   16
   24
   24
   22
   24
   27
   25
   Glucose
   121
   187
   102
   159
   Other labs: PT / PTT / INR:14.2/28.2/1.2, ALT / AST:27/63, Alk Phos / T
   Bili:217/3.2, Amylase / Lipase:59/37, Differential-Neuts:82.8 %,
   Lymph:11.3 %, Mono:3.7 %, Eos:1.9 %, Fibrinogen:518 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.7 g/dL, LDH:333 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.8 mg/dL
   Micro: no new data
   Assessment and Plan
   57F with cirrhosis, s/p UGIB; with improving hypoxemia post-extubation.
   1.  Hypoxemia:  Improving overall; s/p treatment for PNA. Mild volume
   overload and secretions.
   - Continue pulmonary toilet, incentive spirometer
   - Diuresis today with goal TBB negative 500ml to 1L
   2. Neuro:  Improving encephalopathy; suspect med related.
   - Will hold lactulose given copious stool
   - continue to follow
   3. ID: Leukocytosis without clear source.  Cdiff negative.  CVL out
   yesterday.
   - s/p treatment for PNA.  Hold abx and monitor.  Afebrile.
   4. CV: HTN
   - captopril, norvasc
   ICU Care
   Nutrition:  Advance diet
   Glycemic Control:  Insulin sliding scale
   Lines:
   20 Gauge - [**2181-11-3**] 10:30 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:  PPI
   VAP:  Not intubated
   Communication:  Patient updated during rounds
   Code status:  Full
   Disposition : Transfer to floor
   Total time spent:  25minutes